2106-01-04 06:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2106-1-3**] 03:00 PM
 INVASIVE VENTILATION - START [**2106-1-3**] 03:00 PM
 PNEUMOTHORAX - At [**2106-1-3**] 04:15 PM
 CHEST TUBE PLACED - At [**2106-1-3**] 04:40 PM
 ARTERIAL LINE - START [**2106-1-3**] 06:00 PM
 BRONCHOSCOPY - At [**2106-1-3**] 07:55 PM
   - After emergent chest tube placement, pressures stablized, although
   still required some pressors.
   - Patient went into rapid regular rate, without p-waves last night.
   Broke with adenosine, but still no p-waves.
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2106-1-3**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2106-1-4**] 04:30 AM
   Metronidazole - [**2106-1-4**] 05:30 AM
   Infusions:
   Phenylephrine - 1 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2106-1-3**] 04:40 PM
   Fentanyl - [**2106-1-3**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2106-1-4**] 12:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-1-4**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 107 (66 - 115) bpm
   BP: 92/52(67) {67/45(50) - 136/74(87)} mmHg
   RR: 29 (0 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 11 (1 - 11)mmHg
   Total In:
                                                                  9,764 mL
                                                                  2,581 mL
   PO:
   TF:
                                                                     34 mL
   IVF:
                                                                  5,764 mL
                                                                  2,548 mL
   Blood products:
   Total out:
                                                                    185 mL
                                                                    130 mL
   Urine:
                                                                    185 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  9,579 mL
                                                                  2,451 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 380) mL
   Vt (Spontaneous): 143 (143 - 420) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 15 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.45/38/298/24/3
   Ve: 9.4 L/min
   PaO2 / FiO2: 596
   Physical Examination
   Gen: Intubated, alert
   CV: 2/6 SEM
   Pulm: Decreased breath sounds on LL field, otherwise clear.
   Abd: Soft, ND, BS +
   Extr: Trace edema, pulses 2+ symmetric
   Labs / Radiology
   180 K/uL
   8.6 g/dL
   205 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.5 mEq/L
   17 mg/dL
   117 mEq/L
   149 mEq/L
   27.6 %
   20.3 K/uL
        [image002.jpg]
                            [**2106-1-3**]  06:25 PM
                            [**2106-1-3**]  06:30 PM
                            [**2106-1-4**]  12:54 AM
                            [**2106-1-4**]  01:02 AM
   WBC
   20.3
   Hct
   27.6
   Plt
   180
   Cr
   0.8
   0.6
   TropT
   0.08
   0.06
   TCO2
   29
   27
   Glucose
   137
   217
   205
   Other labs: CK / CKMB / Troponin-T:132/7/0.06, Lactic Acid:2.9 mmol/L,
   Ca++:7.2 mg/dL, Mg++:1.9 mg/dL, PO4:1.2 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   This is a [**Age over 90 **] year-old female with a history of recent ICU stay for
   pneumonia who presents unresponsive from her nursing home with fevers
   and respiratory distress.
   .
   Plan:
   # Sepsis - Patient meets SIRS criteria with tachycardia and WBC count.
   Likely source is aspiration.  Bronchoscopy with thick secretions in
   LLL.  Also patient with dirty U/A, so several sources possible.
   - Central venous line
   - IV fluids to goal CVP 8-12
   - Transfuse for Hct > 30
   - IV fluid boluses and Neosynephrine  if needed to maintain MAP > 65
   and UOP > 30cc/hr
   - d/c flagyl
   - Broad spectrum antiobiotics for aspiration - Vanc/Zosyn
   - Follow-up blood, urine and sputum/bronch cultures
   - Trend WBC count fever curve.
   .
   # Respiratory Failure: Initial hypoxia on presentation to ICU was due
   to Tension Pneumo which was corrected with chest tube.  Aspiration
   pneumonia also likely contributing.
   - Abx as above
   - Wean vent settings as tolerated
   - Chest tube to waterseal 10cm
   - f/u thoracics recs for chest tube management
   .
   # Hypernatremia: Came in at 163, possibly due to poor PO intake at
   nursing home.
   - bolus with NS for any hypotension
   - Correct no faster that 0.5 mEq/hr.
   .
   # Paroxysmal A-fib: Sinus on presentation
   - continue amiodarone
   - treat reversible causes of tachycardia
   .
   # Demetia: Chronic, patient only AOx1 per previous reports, but unclear
   about her MS at the nursing home.
   - continue nemenda
   .
   # Goals of care: HCP reversed DNR/DNI status on last admit.  Will
   re-discuss goals of care today with HCP
   .
   # FEN: NPO for now, TF recs in AM, replete lytes PRN
   .
   # Access: R IJ, PIV, L A-line
   .
   # PPx: SQ heparin, boots, bowel regimen, H2 blocker
   .
   # Code:  Full code per OMR note
   .
   # Dispo:  ICU until extubated
   .
   # Comm:  HCP is [**Name2 (NI) 782**] [**Name (NI) **] [**Last Name (un) **] [**Telephone/Fax (1) 2139**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2106-1-4**] 03:15 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-1-3**] 03:00 PM
   18 Gauge - [**2106-1-3**] 03:00 PM
   Arterial Line - [**2106-1-3**] 06:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2106-01-04 10:03:00 Physician Attending Progress Note
Chief Complaint: [**Age over 90 **] year old female who presented with respiratory
   distress/failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **] year old female who presented to the emergency department in
   respiratory distress.
   Transferred to the ICU hypotensive and found to have a pneumothorax on
   the right side.  Chest tube placed and some improvement of blood
   pressure although still remains vasopressor-dependent
   24 Hour Events:
 MULTI LUMEN - START [**2106-1-3**] 03:00 PM
 INVASIVE VENTILATION - START [**2106-1-3**] 03:00 PM
 PNEUMOTHORAX - At [**2106-1-3**] 04:15 PM
 CHEST TUBE PLACED - At [**2106-1-3**] 04:40 PM
 ARTERIAL LINE - START [**2106-1-3**] 06:00 PM
 BRONCHOSCOPY - At [**2106-1-3**] 07:55 PM
   PMH:
   depression
   anxiety
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-1-3**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2106-1-4**] 04:30 AM
   Metronidazole - [**2106-1-4**] 05:30 AM
   Infusions:
   Phenylephrine - 1 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2106-1-3**] 04:40 PM
   Fentanyl - [**2106-1-3**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2106-1-4**] 08:24 AM
   Other medications:
   Med list reviewed
 see med list
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-1-4**] 09:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 113 (66 - 115) bpm
   BP: 107/60(78) {67/45(50) - 136/74(87)} mmHg
   RR: 30 (0 - 31) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
   CVP: 11 (1 - 11)mmHg
   Total In:
                                                                  9,764 mL
                                                                  2,917 mL
   PO:
   TF:
                                                                     60 mL
   IVF:
                                                                  5,764 mL
                                                                  2,816 mL
   Blood products:
   Total out:
                                                                    185 mL
                                                                    250 mL
   Urine:
                                                                    185 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  9,579 mL
                                                                  2,667 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 380) mL
   Vt (Spontaneous): 143 (143 - 420) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.45/38/298/24/3
   Ve: 9.7 L/min
   PaO2 / FiO2: 596
   Physical Examination
   Intubated/sedated
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic:Intubated/sedated/poorly responsive but does move all
   extremities
   Labs / Radiology
   8.6 g/dL
   180 K/uL
   205 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.5 mEq/L
   17 mg/dL
   117 mEq/L
   149 mEq/L
   27.6 %
   20.3 K/uL
        [image002.jpg]
                            [**2106-1-3**]  06:25 PM
                            [**2106-1-3**]  06:30 PM
                            [**2106-1-4**]  12:54 AM
                            [**2106-1-4**]  01:02 AM
   WBC
   20.3
   Hct
   27.6
   Plt
   180
   Cr
   0.8
   0.6
   TropT
   0.08
   0.06
   TCO2
   29
   27
   Glucose
   137
   217
   205
   Other labs: CK / CKMB / Troponin-T:132/7/0.06, Lactic Acid:2.9 mmol/L,
   Ca++:7.2 mg/dL, Mg++:1.9 mg/dL, PO4:1.2 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   1)Septic Shock
   Suspected aspiration pneumonia +/- UTI: Flagyl, Zosyn, Vancomycin
   - thus far has received approximately 9 liters of fluids and urine
   output now 5-10 cc per hour and CVP is currently 4 mmHg. Her
   extremities are slightly cool and last lactate was 2.9
   -> Fluids now and titrate to perfusion endoints of improved urine
   output, lactate clearance, normalized vital signs
   2) Respiratory Failure:
   - wean Fio2 as tolerated
   - still in shock so not candidate for extubation at this time
   -
   3) Pneumothorax s/p chest tube
   -
   4) Hypernatremia: Likely secondary to dehydration.  Continue to
   monitor.  Will give LR for
   5) Atrial fibrillation
 now in sinus
Continue to monitor.  If afib
   recurs, could consider digoxin
   -
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2106-1-4**] 03:15 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-1-3**] 03:00 PM
   18 Gauge - [**2106-1-3**] 03:00 PM
   Arterial Line - [**2106-1-3**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  Full
   Disposition : ICU
   Total time spent: 35 (patient is critically ill)

2106-01-05 06:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Given IVF for tachycardia (120s) and SBP in 90s
   - 12 Lead overnight showed likely AF
   - Pt appeared to convert to NSR overnight
   - Normalizing Lactate
   - Phenylephrine dose decreased overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-1-4**] 08:19 PM
   Piperacillin/Tazobactam (Zosyn) - [**2106-1-5**] 05:04 AM
   Metronidazole - [**2106-1-5**] 05:45 AM
   Infusions:
   Phenylephrine - 0.4 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2106-1-4**] 07:30 PM
   Fentanyl - [**2106-1-5**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2106-1-5**] 12:36 AM
   Insulin - Regular - [**2106-1-5**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-1-5**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.1
C (98.7
   HR: 70 (65 - 121) bpm
   BP: 120/56(80) {93/42(63) - 126/68(88)} mmHg
   RR: 31 (19 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 213 (6 - 231)mmHg
   Total In:
                                                                  7,370 mL
                                                                  1,306 mL
   PO:
   TF:
                                                                    284 mL
                                                                    229 mL
   IVF:
                                                                  6,975 mL
                                                                  1,077 mL
   Blood products:
   Total out:
                                                                  1,008 mL
                                                                    395 mL
   Urine:
                                                                    508 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,362 mL
                                                                    911 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 316 (252 - 364) mL
   PS : 10 cmH2O
   RR (Set): 9
   RR (Spontaneous): 39
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 183
   PIP: 16 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: 7.50/26/117/22/0
   Ve: 11.2 L/min
   PaO2 / FiO2: 293
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   178 K/uL
   9.0 g/dL
   128 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.7 mEq/L
   14 mg/dL
   120 mEq/L
   149 mEq/L
   26.9 %
   15.6 K/uL
        [image002.jpg]
                            [**2106-1-3**]  06:25 PM
                            [**2106-1-3**]  06:30 PM
                            [**2106-1-4**]  12:54 AM
                            [**2106-1-4**]  01:02 AM
                            [**2106-1-4**]  08:53 AM
                            [**2106-1-4**]  03:05 PM
                            [**2106-1-4**]  05:03 PM
                            [**2106-1-5**]  04:23 AM
   WBC
   20.3
   19.2
   15.6
   Hct
   27.6
   28.4
   26.9
   Plt
   180
   189
   178
   Cr
   0.8
   0.6
   0.6
   0.6
   0.7
   TropT
   0.08
   0.06
   TCO2
   29
   27
   21
   Glucose
   137
   217
   205
   96
   108
   128
   Other labs: PT / PTT / INR:16.7/50.3/1.5, CK / CKMB /
   Troponin-T:132/7/0.06, Lactic Acid:1.3 mmol/L, Ca++:7.6 mg/dL, Mg++:1.8
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 PNEUMONIA, ASPIRATION
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   This is a [**Age over 90 **] year-old female with a history of recent ICU stay for
   pneumonia who presents unresponsive from her nursing home with fevers
   and respiratory distress.
   .
   Plan:
   # Sepsis - Patient meets SIRS criteria with tachycardia and WBC count.
   Likely source is aspiration.  Bronchoscopy with thick secretions in
   LLL.  Also patient with dirty U/A, so several sources possible.
   - Central venous line
   - IV fluids to goal CVP 8-12
   - Transfuse for Hct > 30
   - IV fluid boluses and Neosynephrine  if needed to maintain MAP > 65
   and UOP > 30cc/hr
   - d/c flagyl
   - Broad spectrum antiobiotics for aspiration - Vanc/Zosyn
   - Follow-up blood, urine and sputum/bronch cultures
   - Trend WBC count fever curve.
   .
   # Respiratory Failure: Initial hypoxia on presentation to ICU was due
   to Tension Pneumo which was corrected with chest tube.  Aspiration
   pneumonia also likely contributing.
   - Abx as above
   - Wean vent settings as tolerated
   - Chest tube to waterseal 10cm
   - f/u thoracics recs for chest tube management
   .
   # Hypernatremia: Came in at 163, possibly due to poor PO intake at
   nursing home.
   - bolus with NS for any hypotension
   - Correct no faster that 0.5 mEq/hr.
   .
   # Paroxysmal A-fib: Sinus on presentation
   - continue amiodarone
   - treat reversible causes of tachycardia
   .
   # Demetia: Chronic, patient only AOx1 per previous reports, but unclear
   about her MS at the nursing home.
   - continue nemenda
   .
   # Goals of care: HCP reversed DNR/DNI status on last admit.  Will
   re-discuss goals of care today with HCP
   .
   # FEN: NPO for now, TF recs in AM, replete lytes PRN
   .
   # Access: R IJ, PIV, L A-line
   .
   # PPx: SQ heparin, boots, bowel regimen, H2 blocker
   .
   # Code:  Full code per OMR note
   .
   # Dispo:  ICU until extubated
   .
   # Comm:  HCP is [**Name2 (NI) 782**] [**Name (NI) **] [**Last Name (un) **] [**Telephone/Fax (1) 2139**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2106-1-4**] 11:32 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-1-3**] 03:00 PM
   18 Gauge - [**2106-1-3**] 03:00 PM
   Arterial Line - [**2106-1-3**] 06:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2106-01-05 10:52:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  Overnight, continues to be on vasopressors but decreasing dosage,
   stable oxygenation.  No new events
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: intubated and not very responsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-1-4**] 08:19 PM
   Metronidazole - [**2106-1-5**] 05:45 AM
   Piperacillin/Tazobactam (Zosyn) - [**2106-1-5**] 10:04 AM
   Infusions:
   Phenylephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2106-1-4**] 07:30 PM
   Insulin - Regular - [**2106-1-5**] 04:00 AM
   Fentanyl - [**2106-1-5**] 08:03 AM
   Heparin Sodium (Prophylaxis) - [**2106-1-5**] 08:04 AM
   Other medications:
   Med List Reviewed - See [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Unable
   Flowsheet Data as of  [**2106-1-5**] 10:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.7
   HR: 65 (65 - 121) bpm
   BP: 99/59(76) {90/42(63) - 126/59(80)} mmHg
   RR: 24 (19 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 8 (6 - 231)mmHg
   Total In:
                                                                  7,370 mL
                                                                  2,029 mL
   PO:
   TF:
                                                                    284 mL
                                                                    358 mL
   IVF:
                                                                  6,975 mL
                                                                  1,671 mL
   Blood products:
   Total out:
                                                                  1,008 mL
                                                                    555 mL
   Urine:
                                                                    508 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,362 mL
                                                                  1,474 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 330 (252 - 364) mL
   PS : 10 cmH2O
   RR (Set): 9
   RR (Spontaneous): 35
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 183
   PIP: 15 cmH2O
   SpO2: 99%
   ABG: 7.48/31/145/22/1
   Ve: 11.6 L/min
   PaO2 / FiO2: 363
   Physical Examination
   General Appearance: Thin, mechanically ventilated
   Head, Ears, Nose, Throat: Normocephalic, AT
   Chest: Clear to auscultation
   Cardiovascular: (S1: Normal), (S2: Normal)
   Extremities: trace edema
   Skin:  warm, dry
   Neurologic: Moves all extremities
   Labs / Radiology
   9.0 g/dL
   178 K/uL
   128 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.7 mEq/L
   14 mg/dL
   120 mEq/L
   149 mEq/L
   26.9 %
   15.6 K/uL
        [image002.jpg]
                            [**2106-1-3**]  06:25 PM
                            [**2106-1-3**]  06:30 PM
                            [**2106-1-4**]  12:54 AM
                            [**2106-1-4**]  01:02 AM
                            [**2106-1-4**]  08:53 AM
                            [**2106-1-4**]  03:05 PM
                            [**2106-1-4**]  05:03 PM
                            [**2106-1-5**]  04:23 AM
                            [**2106-1-5**]  08:36 AM
   WBC
   20.3
   19.2
   15.6
   Hct
   27.6
   28.4
   26.9
   Plt
   180
   189
   178
   Cr
   0.8
   0.6
   0.6
   0.6
   0.7
   TropT
   0.08
   0.06
   TCO2
   29
   27
   21
   24
   Glucose
   137
   217
   205
   96
   108
   128
   Other labs: PT / PTT / INR:16.7/50.3/1.5, CK / CKMB /
   Troponin-T:132/7/0.06, Lactic Acid:1.2 mmol/L, Ca++:7.6 mg/dL, Mg++:1.8
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 PNEUMONIA, ASPIRATION
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   1) Pneumonia/septic shock
   Plan:
   - Continue antibiotics (Vanc/Zosyn)
   - Wean phenylephrine as tolerated; suspect will wean off shortly
   -
   2) Respiratory Failure
   - Will increase pressure support to allow her to rest
   3) Pneumothorax: Keep CT in place for now
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2106-1-5**] 07:50 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-1-3**] 03:00 PM
   18 Gauge - [**2106-1-3**] 03:00 PM
   Arterial Line - [**2106-1-3**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35

2106-01-06 07:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2106-1-5**] 11:00 AM
 ARTERIAL LINE - STOP [**2106-1-6**] 12:50 AM
   -Gave 1L D5W at 150cc/hr with resolution of hypernatremia from 149 to
   142
   -Gave 500cc NS bolus for BP.
   -Weaned off pressors as of noon
   -Leaving chest tube in place for now as long as on vent
   -Fellow called and informed HCP of current status
   -D/c'd Flagyl but continuing Vanco/Zosyn
   -put on A/C in evening to rest pt. Was on PS all day
   - Thoracics recs: keep chest tube to suction, check CXR. Likely in am
   will put to water seal. Then chk cxr several hrs after before able to
   pull tube
   -Cx with NGTD
   - Has A line with poor readings (approx [**11-25**] below actual cuff BP)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2106-1-5**] 05:45 AM
   Vancomycin - [**2106-1-5**] 07:56 PM
   Piperacillin/Tazobactam (Zosyn) - [**2106-1-6**] 04:53 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2106-1-5**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2106-1-5**] 04:28 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-1-6**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.7
C (99.9
   HR: 71 (65 - 96) bpm
   BP: 108/41(58) {92/33(48) - 149/69(87)} mmHg
   RR: 22 (19 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 8 (8 - 8)mmHg
   Total In:
                                                                  4,684 mL
                                                                    559 mL
   PO:
   TF:
                                                                    816 mL
   IVF:
                                                                  3,868 mL
                                                                    559 mL
   Blood products:
   Total out:
                                                                  1,142 mL
                                                                    610 mL
   Urine:
                                                                    717 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,542 mL
                                                                    -51 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 217 (217 - 415) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 156
   PIP: 17 cmH2O
   Plateau: 15 cmH2O
   SpO2: 97%
   ABG: 7.48/30/162/22/0
   Ve: 9.9 L/min
   PaO2 / FiO2: 405
   Physical Examination
   General Appearance: No acute distress, Responsive to verbal command to
   open eyes
   Eyes / Conjunctiva: pupils equal and round
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   few crackles on left side anteriorly), subcutaneous emphysema on chest
   and upper abdomen b/l
   Abdominal: Soft, Distended, decreased bowel sounds
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, Edematous
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Increased, upper extremity clonus,
   cogwheel rigidity
   Labs / Radiology
   123 K/uL
   8.1 g/dL
   141 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.5 mEq/L
   12 mg/dL
   112 mEq/L
   141 mEq/L
   24.8 %
   10.1 K/uL
        [image002.jpg]
                            [**2106-1-4**]  01:02 AM
                            [**2106-1-4**]  08:53 AM
                            [**2106-1-4**]  03:05 PM
                            [**2106-1-4**]  05:03 PM
                            [**2106-1-5**]  04:23 AM
                            [**2106-1-5**]  08:36 AM
                            [**2106-1-5**]  02:13 PM
                            [**2106-1-5**]  03:44 PM
                            [**2106-1-5**]  09:47 PM
                            [**2106-1-6**]  04:37 AM
   WBC
   20.3
   19.2
   15.6
   10.1
   Hct
   27.6
   28.4
   26.9
   24.8
   Plt
   180
   189
   178
   123
   Cr
   0.6
   0.6
   0.6
   0.7
   0.6
   0.3
   0.6
   TropT
   0.06
   TCO2
   21
   24
   23
   Glucose
   [**Telephone/Fax (2) 2899**]8
   187
   146
   141
   Other labs: PT / PTT / INR:16.7/50.3/1.5, CK / CKMB /
   Troponin-T:132/7/0.06, Lactic Acid:1.2 mmol/L, Ca++:7.0 mg/dL, Mg++:2.1
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 PNEUMONIA, ASPIRATION
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   [**Age over 90 **] year-old female with a history of recent ICU stay for pneumonia who
   presents unresponsive from her nursing home with fevers and respiratory
   distress.
   .
   Plan:
   # Sepsis - Patient meets SIRS criteria with tachycardia and WBC count.
   Likely source is aspiration.  Bronchoscopy with thick secretions in
   LLL.
   - Central venous line
   - IV fluids to goal CVP 8-12
   - Transfuse for Hct > 30
   - IV fluid boluses and Neosynephrine  if needed to maintain MAP > 65
   and UOP > 30cc/hr
   - continue - Vanc/Zosyn
   - Follow-up blood, urine and sputum/bronch cultures
   - Trend WBC count fever curve.
   .
   # Respiratory Failure: Initial hypoxia on presentation to ICU was due
   to Tension Pneumo which was corrected with chest tube.  Aspiration
   pneumonia also likely contributing.
   - Abx as above
   - Increase Pressure support to 15/5 for tachypnea
   - Wean vent settings as tolerated
   - Chest tube to waterseal 10cm
 continue until extubated
   - f/u thoracics recs for chest tube management
   .
   # Hypernatremia: Came in at 163, possibly due to poor PO intake at
   nursing home.  Currently 149
   - D5 W at 100 cc/hr
   - Correct no faster that 0.5 mEq/hr.
   .
   # Paroxysmal A-fib: Converted back to sinus
   - continue amiodarone
   - treat reversible causes of tachycardia
   .
   # Demetia: Chronic, patient only AOx1 per previous reports, but unclear
   about her MS at the nursing home.
   - continue nemenda
   .
   # FEN: NPO for now, TF recs in AM, replete lytes PRN
   .
   # Access: R IJ, PIV
   .
   # PPx: SQ heparin, boots, bowel regimen, H2 blocker
   .
   # Code:  Full code per OMR note
   .
   # Dispo:  ICU until extubated
   .
   # Comm:  HCP is [**Name2 (NI) 782**] [**Name (NI) **] [**Last Name (un) **] [**Telephone/Fax (1) 2139**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-1-3**] 03:00 PM
   18 Gauge - [**2106-1-3**] 03:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2106-01-06 09:17:00 Physician Attending Progress Note
Chief Complaint: Hypotension/sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Overnight, came off vasopressors and blood pressure and perfusion
   parameters improved.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2106-1-5**] 11:00 AM
 ARTERIAL LINE - STOP [**2106-1-6**] 12:50 AM
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2106-1-5**] 05:45 AM
   Vancomycin - [**2106-1-5**] 07:56 PM
   Piperacillin/Tazobactam (Zosyn) - [**2106-1-6**] 04:53 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2106-1-5**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2106-1-6**] 08:43 AM
   Other medications:
   Med List reviewed - See [**Month (only) **] for complete list
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-1-6**] 09:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.7
C (99.9
   HR: 71 (65 - 96) bpm
   BP: 109/46(62) {92/33(48) - 149/69(87)} mmHg
   RR: 25 (19 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 8 (8 - 8)mmHg
   Total In:
                                                                  4,684 mL
                                                                    594 mL
   PO:
   TF:
                                                                    816 mL
   IVF:
                                                                  3,868 mL
                                                                    594 mL
   Blood products:
   Total out:
                                                                  1,142 mL
                                                                    610 mL
   Urine:
                                                                    717 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,542 mL
                                                                    -16 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 217 (217 - 415) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 156
   PIP: 19 cmH2O
   Plateau: 16 cmH2O
   SpO2: 97%
   ABG: 7.48/30/162/22/0
   Ve: 12.6 L/min
   PaO2 / FiO2: 405
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.1 g/dL
   123 K/uL
   141 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.5 mEq/L
   12 mg/dL
   112 mEq/L
   141 mEq/L
   24.8 %
   10.1 K/uL
        [image002.jpg]
                            [**2106-1-4**]  01:02 AM
                            [**2106-1-4**]  08:53 AM
                            [**2106-1-4**]  03:05 PM
                            [**2106-1-4**]  05:03 PM
                            [**2106-1-5**]  04:23 AM
                            [**2106-1-5**]  08:36 AM
                            [**2106-1-5**]  02:13 PM
                            [**2106-1-5**]  03:44 PM
                            [**2106-1-5**]  09:47 PM
                            [**2106-1-6**]  04:37 AM
   WBC
   20.3
   19.2
   15.6
   10.1
   Hct
   27.6
   28.4
   26.9
   24.8
   Plt
   180
   189
   178
   123
   Cr
   0.6
   0.6
   0.6
   0.7
   0.6
   0.3
   0.6
   TropT
   0.06
   TCO2
   21
   24
   23
   Glucose
   [**Telephone/Fax (2) 2899**]8
   187
   146
   141
   Other labs: PT / PTT / INR:16.7/50.3/1.5, CK / CKMB /
   Troponin-T:132/7/0.06, Lactic Acid:1.2 mmol/L, Ca++:7.0 mg/dL, Mg++:2.1
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 PNEUMONIA, ASPIRATION
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   1) Pneumothorax:
   On examination this morning patient has signficant amount of
   subcutaneous emphysema tracking along right and left side, however the
   peak airway pressures are not elevated
   - Chest tube to suction and STAT portable chest xray
   -
   2) Septic Shock/Pneumonia
   - Now off vasopressors and WBC has normalized, other perfusion
   parameters have normalized (urine output and lactic acid levels)
   - At this point, will focus on diuresis and weaning from ventilator
   given resolution of hypotensive shock
   - Continue antibiotics
   3) Respiratory Failure secondary to pneumonia/septic shock and now
   volume overload from the resuscitation
   - goal of diuresis as blood pressure will tolerate assuming issue with
   pneumothorax is properly resolved and patient is stable
   - Change to pressure support ventilation
   4) Thrombocytopenia
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-1-3**] 03:00 PM
   18 Gauge - [**2106-1-3**] 03:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 35 minutes
   Patient is critically ill

2106-01-07 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2106-1-6**] 08:12 PM
   - Patient dropped pressures to 70's -> responded well to 250 cc bolus
   and repeat CXR with lung markings throughout -> no obvious tension
   pnuemo
   - OGT placed
   - Art line placed - positional [**Location (un) 118**]
   - Updated family on patient's condition.  They stated that she likely
   would not have wanted a trach, but are not to the point that they would
   make her DNR/DNI yet.  Will continue to update them on her condition.
   - received lasix 10mg IV overnight with increase in urine output
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2106-1-5**] 05:45 AM
   Vancomycin - [**2106-1-6**] 08:02 PM
   Piperacillin/Tazobactam (Zosyn) - [**2106-1-7**] 04:22 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-1-6**] 04:12 PM
   Lorazepam (Ativan) - [**2106-1-6**] 11:50 PM
   Haloperidol (Haldol) - [**2106-1-7**] 02:03 AM
   Furosemide (Lasix) - [**2106-1-7**] 06:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-1-7**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2 (at 4pm [**1-6**] - otherwise afebrile)
   Tcurrent: 36.9
C (98.4
   HR: 74 (65 - 86) bpm
   BP: 78/32(49) {71/27(44) - 134/56(77)} mmHg
   RR: 19 (12 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 14 (7 - 26)mmHg
   Total In:
                                                                  1,802 mL
                                                                    228 mL
   PO:
   TF:
                                                                    212 mL
                                                                    127 mL
   IVF:
                                                                  1,420 mL
                                                                     51 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  1,365 mL
                                                                    620 mL
   Urine:
                                                                  1,115 mL
                                                                    330 mL
   NG:
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                    437 mL
                                                                   -392 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (350 - 460) mL
   Vt (Spontaneous): 415 (259 - 460) mL
   PS : 0 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 169
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: 7.50/31/116/22/2
   Ve: 7.2 L/min
   PaO2 / FiO2: 290
   Physical Examination
   General Appearance: No acute distress, Elderly, severely kyphotic,
   subcutaneous emphysema on right > left but in both shoulders, across
   chest and upper abdomen, and down right arm
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   )
   Abdominal: Bowel sounds present, Distended, slightly firm
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, Opens eyes to verbal stimulus but does not meaningfully
   follow commands
   Labs / Radiology
   175 K/uL
   8.4 g/dL
   121 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.7 mEq/L
   11 mg/dL
   113 mEq/L
   141 mEq/L
   24.9 %
   10.2 K/uL
        [image002.jpg]
                            [**2106-1-5**]  08:36 AM
                            [**2106-1-5**]  02:13 PM
                            [**2106-1-5**]  03:44 PM
                            [**2106-1-5**]  09:47 PM
                            [**2106-1-6**]  04:37 AM
                            [**2106-1-6**]  02:37 PM
                            [**2106-1-6**]  10:09 PM
                            [**2106-1-6**]  10:19 PM
                            [**2106-1-7**]  04:39 AM
                            [**2106-1-7**]  05:00 AM
   WBC
   10.1
   10.2
   Hct
   24.8
   25.0
   24.9
   Plt
   123
   175
   Cr
   0.6
   0.3
   0.6
   0.6
   0.7
   TCO2
   24
   23
   23
   25
   Glucose
   187
   146
   141
   123
   121
   Other labs: PT / PTT / INR:16.7/50.3/1.5, CK / CKMB /
   Troponin-T:132/7/0.06, Lactic Acid:1.1 mmol/L, Albumin:2.1 g/dL,
   Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 PNEUMONIA, ASPIRATION
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   [**Age over 90 **] year-old female with a history of recent ICU stay for pneumonia who
   presents unresponsive from her nursing home with fevers and respiratory
   distress s/p intubation with new subcutaneous emphysema today.
   .
   Plan:
   .
   #  Aspiration Pneumonia c/b SIRS: no longer meets criteria for SIRS,
   overall improved although still with secretions
   - continue - Vanc/Zosyn for healthcare assoc aspiration pneumonia in
   setting of hx MRSA
   - Follow blood, urine and sputum/bronch cultures
   - Trend WBC count fever curve
   - discuss longterm plan of care/aspiration precautions with family in
   setting of likely chronic aspiration
   .
   # Respiratory Failure with tension PTX s/p right chest tube placement:
   Chest tube on suction with minimal drainage. Tolerates CPAP w PS
   throughout the day and AC overnight for rest. RSBI does not suggest
   patient would tolerate extubation today. Likely large contribution of
   PNA and fluid overload.
   - Abx as above
   - attempt diuresis with lasix
 consider lasix drip
   - maintain CVL until extubated
   - f/u thoracics recs for chest tube management, maintain on suction for
   now
   - recheck RSBI this afternoon after diuresis for potential extubation
   .
   #. Subcutaneous Emphysema:  Concern for PTX or chest tube movement.
   Lower on differential would be esophageal tear or tracheal fistula.
   - daily CXR
   - thoracics following
   - monitor
   .
   # Thrombocytopenia: Increased comp to yesterday. Ddx: dilution,
   heparin, H2 blocker or other medication.
   - monitor
   .
   # Paroxysmal A-fib: Converted back to sinus. Not anticoagulated.
   - continue amiodarone
   .
   # Dementia: Chronic, patient only AOx1 per previous reports, but
   unclear about her MS at the nursing home.
   - continue nemenda
   .
   # FEN: Tube feeds via OG, replete lytes PRN
   .
   # Access: R IJ, ART
   .
   # PPx: SQ heparin, boots, bowel regimen, H2 blocker
   .
   # Code:  Full code per OMR note
   .
   # Dispo:  ICU until extubated
   .
   # Comm:  HCP is [**Name2 (NI) 782**] [**Name (NI) **] [**Last Name (un) **] [**Telephone/Fax (1) 2139**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2106-1-7**] 05:00 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Multi Lumen - [**2106-1-3**] 03:00 PM
   Arterial Line - [**2106-1-6**] 08:12 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU - With diuresis, consider rechecking RSBI later this pm
   for possible extubation

2106-01-07 10:52:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   history reviewed
   24 Hour Events:
   New subcut emphysema yesterday without obvious cause. Appreciate
   thoracics' input.
   Off pressors two nights ago.
   Overnight had BP in 70s, bolused 250 cc with improvement but continues
   to have labile BP by a-line.
   More alert this AM.
   Family discussion yesterday - not a trach candidate per niece [**Name (NI) 225**] but
   remains full code
                   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2106-1-5**] 05:45 AM
   Piperacillin/Tazobactam (Zosyn) - [**2106-1-7**] 04:22 AM
   Vancomycin - [**2106-1-7**] 08:50 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2106-1-6**] 11:50 PM
   Haloperidol (Haldol) - [**2106-1-7**] 02:03 AM
   Furosemide (Lasix) - [**2106-1-7**] 06:05 AM
   Heparin Sodium (Prophylaxis) - [**2106-1-7**] 09:08 AM
   Fentanyl - [**2106-1-7**] 09:41 AM
   Midazolam (Versed) - [**2106-1-7**] 10:19 AM
   Other medications:
   SCH, amio, ISS, vit D, caco3, famotidine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-1-7**] 10:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 73 (65 - 86) bpm
   BP: 87/36(55) {71/27(44) - 134/56(77)} mmHg
   RR: 17 (11 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 15 (7 - 26)mmHg
   Total In:
                                                                  1,802 mL
                                                                    553 mL
   PO:
   TF:
                                                                    212 mL
                                                                    227 mL
   IVF:
                                                                  1,420 mL
                                                                    276 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  1,365 mL
                                                                  1,200 mL
   Urine:
                                                                  1,115 mL
                                                                    910 mL
   NG:
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                    437 mL
                                                                   -647 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 460) mL
   Vt (Spontaneous): 415 (259 - 460) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 169
   PIP: 22 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: 7.50/31/116/22/2
   Ve: 7.2 L/min
   PaO2 / FiO2: 290
   Physical Examination
   Head, Ears, Nose, Throat: subcutaneous emphysema on right
   chest/arm/neck
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: 1/6 Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Neurologic: Follows simple commands, moves extremities, opens eyes
   Labs / Radiology
   8.4 g/dL
   175 K/uL
   121 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.7 mEq/L
   11 mg/dL
   113 mEq/L
   141 mEq/L
   24.9 %
   10.2 K/uL
        [image002.jpg]
                            [**2106-1-5**]  08:36 AM
                            [**2106-1-5**]  02:13 PM
                            [**2106-1-5**]  03:44 PM
                            [**2106-1-5**]  09:47 PM
                            [**2106-1-6**]  04:37 AM
                            [**2106-1-6**]  02:37 PM
                            [**2106-1-6**]  10:09 PM
                            [**2106-1-6**]  10:19 PM
                            [**2106-1-7**]  04:39 AM
                            [**2106-1-7**]  05:00 AM
   WBC
   10.1
   10.2
   Hct
   24.8
   25.0
   24.9
   Plt
   123
   175
   Cr
   0.6
   0.3
   0.6
   0.6
   0.7
   TCO2
   24
   23
   23
   25
   Glucose
   187
   146
   141
   123
   121
   Other labs: PT / PTT / INR:16.7/50.3/1.5, CK / CKMB /
   Troponin-T:132/7/0.06, Lactic Acid:1.1 mmol/L, Albumin:2.1 g/dL,
   Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Fluid analysis / Other labs: cortisol 20.5
   Imaging: ETT, right sided chest tube in place
   Assessment and Plan
 PNEUMONIA, ASPIRATION
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   1) Acute respiratory failure
   Likely due to aspiration pneumonia, now complicated by bronchopleural
   fistula
   Keep chest tube on suction but will change vent to PSV and consider
   reducingPEEP
   Diurese today to goal negative ~1L
   2) septic shock/pneumonia
   Off vasopressors, with better BP (especially by cuff, a-line not
   [**Location (un) 118**] well)
   3) subcutaneous emphysema
   due to bronchopleural fistula following line placement. Continue chest
   tube on suction
   4) thrombocytopenia
 improved
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2106-1-7**] 05:00 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-1-3**] 03:00 PM
   Arterial Line - [**2106-1-6**] 08:12 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 38 minutes
   Patient is critically ill

2106-01-08 08:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - chest tube dressing changed
   - vent changed to PS w/O PEEP - turned PS down from 14 to 12 this am
   - continued to diuresis (goal -1L)
   - c/o back pain
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-1-7**] 07:58 PM
   Piperacillin/Tazobactam (Zosyn) - [**2106-1-8**] 04:19 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2106-1-7**] 02:11 PM
   Furosemide (Lasix) - [**2106-1-7**] 03:10 PM
   Midazolam (Versed) - [**2106-1-7**] 04:17 PM
   Heparin Sodium (Prophylaxis) - [**2106-1-8**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Flowsheet Data as of  [**2106-1-8**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.6
C (97.8
   HR: 72 (67 - 78) bpm
   BP: 93/34(56) {82/24(46) - 130/48(79)} mmHg
   RR: 30 (11 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 11 (9 - 24)mmHg
   Total In:
                                                                  1,509 mL
                                                                    470 mL
   PO:
   TF:
                                                                    697 mL
                                                                    284 mL
   IVF:
                                                                    761 mL
                                                                    186 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  2,590 mL
                                                                    675 mL
   Urine:
                                                                  2,260 mL
                                                                    665 mL
   NG:
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                 -1,081 mL
                                                                   -205 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 303 (303 - 454) mL
   PS : 12 cmH2O
   RR (Spontaneous): 29
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 135
   PIP: 14 cmH2O
   SpO2: 98%
   ABG: 7.50/32/144/24/2
   Ve: 9.1 L/min
   PaO2 / FiO2: 360
   Physical Examination
   General Appearance: No acute distress, Kyphotic
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (Murmur: Systolic), irreg irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Extremities: Right: 2+, Left: 1+, R slightly > left
   Skin:  Not assessed
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   154 K/uL
   7.9 g/dL
   113 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.0 mEq/L
   12 mg/dL
   109 mEq/L
   141 mEq/L
   23.5 %
   8.7 K/uL
        [image002.jpg]
                            [**2106-1-5**]  09:47 PM
                            [**2106-1-6**]  04:37 AM
                            [**2106-1-6**]  02:37 PM
                            [**2106-1-6**]  10:09 PM
                            [**2106-1-6**]  10:19 PM
                            [**2106-1-7**]  04:39 AM
                            [**2106-1-7**]  05:00 AM
                            [**2106-1-7**]  12:35 PM
                            [**2106-1-8**]  03:54 AM
                            [**2106-1-8**]  04:04 AM
   WBC
   10.1
   10.2
   8.7
   Hct
   24.8
   25.0
   24.9
   23.5
   Plt
   123
   175
   154
   Cr
   0.3
   0.6
   0.6
   0.7
   0.6
   TCO2
   23
   25
   23
   26
   Glucose
   146
   141
   123
   121
   113
   Other labs: PT / PTT / INR:16.7/50.3/1.5, CK / CKMB /
   Troponin-T:132/7/0.06, Lactic Acid:1.6 mmol/L, Albumin:2.1 g/dL,
   Ca++:7.4 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 PNEUMONIA, ASPIRATION
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   [**Age over 90 **] year-old female with recent ICU stay for likely aspiration pneumonia
   who presented on [**1-3**] unresponsive from her nursing home with fevers,
   respiratory distress, and a tension ptx s/p chest tube placement and
   intubation with development of subcutaneous emphysema on [**1-6**].
   .
   #  Aspiration Pneumonia c/b SIRS: no longer meets criteria for SIRS,
   overall improved although still with secretions
   - continue - Vanc/Zosyn for healthcare assoc aspiration pneumonia in
   setting of hx MRSA (began [**1-3**])
   - Follow blood, urine and sputum/bronch cultures
   - Trend WBC count fever curve
   - plan to eventually discuss longterm plan of care/aspiration
   precautions with family in setting of likely chronic aspiration
   .
   # Respiratory Failure with tension PTX s/p right chest tube placement:
   Chest tube on suction with minimal drainage. Tolerates CPAP w PS
   throughout the day and AC overnight for rest. RSBI does not suggest
   patient would tolerate extubation today. Likely large contribution of
   PNA and fluid overload. No air leak today.
   - chest tube to water seal, CXR this afternoon
   - Abx as above
   - attempt diuresis with lasix for goal -1L today
   - maintain CVL until extubated
   - f/u thoracics recs for chest tube management
   .
   #. Subcutaneous Emphysema: Stable to improved today after dressing
   change.
   - daily CXR
   - thoracics following
   - monitor
   .
   # Thrombocytopenia: Improved from prior, stable past couple of days.
   Ddx: dilution, heparin, H2 blocker or other medication.
   - monitor
   .
   # Paroxysmal A-fib: Converted back to sinus. Not anticoagulated.
   - continue amiodarone
   .
   # Dementia: Chronic, patient only AOx1 per previous reports, but
   unclear about her MS at the nursing home.
   - continue nemenda
   .
   # FEN: Tube feeds via OG, replete lytes PRN
   .
   # Access: R IJ, ART
   .
   # PPx: SQ heparin, boots, bowel regimen, H2 blocker
   .
   # Code:  Full code per OMR note
   .
   # Dispo:  ICU until extubated
   .
   # Comm:  HCP is [**Name2 (NI) 782**] [**Name (NI) **] [**Last Name (un) **] [**Telephone/Fax (1) 2139**]
 will be contact[**Name (NI) **] by
   attending to discuss code status
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2106-1-7**] 12:59 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-1-3**] 03:00 PM
   Arterial Line - [**2106-1-6**] 08:12 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2106-01-08 08:21:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Chest tube dressing changed
   Continues to have air leak
   Diuresed with lasix
   Question of back pain this AM
   PS decreased from 14 to 12 cm
   K+ replaced
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-1-7**] 07:58 PM
   Piperacillin/Tazobactam (Zosyn) - [**2106-1-8**] 04:19 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2106-1-7**] 02:11 PM
   Furosemide (Lasix) - [**2106-1-7**]
   Midazolam (Versed) - [**2106-1-7**]
   Heparin Sodium (Prophylaxis) - [**2106-1-8**] 08:00 AM
   Other medications: SCH, vit D, famotidine, fent 25-100 mcg q6h prn,
   versed prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-1-8**] 08:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.6
C (97.8
   HR: 81 (67 - 81) bpm
   BP: 132/51(83) {82/24(46) - 132/51(83)} mmHg
   RR: 32 (11 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 10 (9 - 24)mmHg
   Total In:
                                                                  1,509 mL
                                                                    491 mL
   PO:
   TF:
                                                                    697 mL
                                                                    292 mL
   IVF:
                                                                    761 mL
                                                                    199 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  2,590 mL
                                                                    675 mL
   Urine:
                                                                  2,260 mL
                                                                    665 mL
   NG:
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                 -1,081 mL
                                                                   -184 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 303 (303 - 454) mL
   PS : 12 cmH2O
   RR (Spontaneous): 29
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 135
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: 7.50/32/144/24/2
   Ve: 9.1 L/min
   PaO2 / FiO2: 360
   Physical Examination
   Arousable and follows commands.
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Ext: 2+ LE edema
   Respiratory / Chest: (Breath Sounds: Clear : ), subcutaneous emphysema
   on right chest/arm/neck/ bilat shoulders
   Skin:  Not assessed
   Neurologic: Follows simple commands, moving all 4 extrem
   Labs / Radiology
   7.9 g/dL
   154 K/uL
   113 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.0 mEq/L
   12 mg/dL
   109 mEq/L
   141 mEq/L
   23.5 %
   8.7 K/uL
        [image002.jpg]
                            [**2106-1-5**]  09:47 PM
                            [**2106-1-6**]  04:37 AM
                            [**2106-1-6**]  02:37 PM
                            [**2106-1-6**]  10:09 PM
                            [**2106-1-6**]  10:19 PM
                            [**2106-1-7**]  04:39 AM
                            [**2106-1-7**]  05:00 AM
                            [**2106-1-7**]  12:35 PM
                            [**2106-1-8**]  03:54 AM
                            [**2106-1-8**]  04:04 AM
   WBC
   10.1
   10.2
   8.7
   Hct
   24.8
   25.0
   24.9
   23.5
   Plt
   123
   175
   154
   Cr
   0.3
   0.6
   0.6
   0.7
   0.6
   TCO2
   23
   25
   23
   26
   Glucose
   146
   141
   123
   121
   113
   Other labs: PT / PTT / INR:16.7/50.3/1.5, CK / CKMB /
   Troponin-T:132/7/0.06, Lactic Acid:1.6 mmol/L, Albumin:2.1 g/dL,
   Ca++:7.4 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 PNEUMONIA, ASPIRATION
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   1) Acute respiratory failure
   Likely due to aspiration pneumonia, still has moderate secretions
   Not ready for extubation, d/t secretions, weak cough though acceptable
   RSBI.
   Iatrogenic bronchopleural fistula seems to be resolving, will put chest
   tube on water seal and repeat CXR
   Diurese today to goal negative ~1L
   2) septic shock/pneumonia
   Off vasopressors, with better BP (especially by cuff, a-line not
   [**Location (un) 118**] well)
   Day 5 of Vanc/Zosyn
   3)  subcutaneous emphysema
   due to BPF following line placement. Stable on exam
   4) thrombocytopenia
 improved
   Rest of plan as detailed in Dr. [**Last Name (STitle) 1055**]
s note
   ICU Care
   Nutrition: Nutren Pulmonary (Full) - [**2106-1-7**] 12:59 PM 35 mL/hour
   Glycemic Control:
   Multi Lumen - [**2106-1-3**] 03:00 PM
   Arterial Line - [**2106-1-6**] 08:12 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Communication: ICU consent signed
   Code status: Full code, NOK is niece
   Disposition :ICU
   Total time spent: 36 minutes
   Patient is critically ill

2106-01-09 06:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - did well with chest tube to water seal
   - tachypnic to 40s, so put on AC in the evening
   - small fentanyl boluses for discomfort, minimal need (no midazolam
   given)
   - held pm vanco for level 43.7 - decreased dose from 1q12 to 1q24
   - became hypotensive to 70s-80s after 2nd dose lasix 10mg IV so was
   given 250cc bolus and responded well
   - neice [**Name (NI) 161**], will speak with her brother; cont to wish for full
   code status although would not want trach
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-1-8**] 08:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2106-1-9**] 04:17 AM
   Infusions:
   Other ICU medications:
   Insulin - Regular - [**2106-1-8**] 10:45 AM
   Furosemide (Lasix) - [**2106-1-8**] 06:30 PM
   Midazolam (Versed) - [**2106-1-8**] 10:35 PM
   Famotidine (Pepcid) - [**2106-1-9**] 12:22 AM
   Heparin Sodium (Prophylaxis) - [**2106-1-9**] 12:22 AM
   Fentanyl - [**2106-1-9**] 04:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-1-9**] 06:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 64 (64 - 92) bpm
   BP: 122/53(78) {91/31(47) - 168/72(108)} mmHg
   RR: 13 (13 - 32) insp/min
   SpO2: 96%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 62 Inch
    CVP: 21 (2 - 21)mmHg
   Total In:
                                                                  2,297 mL
                                                                    478 mL
   PO:
   TF:
                                                                    842 mL
                                                                    217 mL
   IVF:
                                                                  1,140 mL
                                                                    212 mL
   Blood products:
   Total out:
                                                                  2,645 mL
                                                                    550 mL
   Urine:
                                                                  2,635 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -348 mL
                                                                    -72 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 339 (303 - 339) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35, No Spon Resp
   PIP: 17 cmH2O
   Plateau: 14 cmH2O
   SpO2: 96%
   ABG: 7.53/33/113/23/5
   Ve: 6 L/min
   PaO2 / FiO2: 283
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   200 K/uL
   8.0 g/dL
   122 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.8 mEq/L
   12 mg/dL
   110 mEq/L
   142 mEq/L
   23.4 %
   10.6 K/uL
        [image002.jpg]
                            [**2106-1-6**]  02:37 PM
                            [**2106-1-6**]  10:09 PM
                            [**2106-1-6**]  10:19 PM
                            [**2106-1-7**]  04:39 AM
                            [**2106-1-7**]  05:00 AM
                            [**2106-1-7**]  12:35 PM
                            [**2106-1-8**]  03:54 AM
                            [**2106-1-8**]  04:04 AM
                            [**2106-1-8**]  03:54 PM
                            [**2106-1-9**]  04:04 AM
   WBC
   10.2
   8.7
   10.6
   Hct
   25.0
   24.9
   23.5
   23.4
   Plt
   175
   154
   200
   Cr
   0.6
   0.7
   0.6
   0.7
   TCO2
   23
   25
   23
   26
   28
   Glucose
   123
   121
   113
   122
   Other labs: PT / PTT / INR:16.7/50.3/1.5, CK / CKMB /
   Troponin-T:132/7/0.06, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL,
   Ca++:7.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 PNEUMONIA, ASPIRATION
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   [**Age over 90 **] year-old female with recent ICU stay for likely aspiration pneumonia
   who presented on [**1-3**] unresponsive from her nursing home with fevers,
   respiratory distress, and a tension ptx s/p chest tube placement and
   intubation with development of subcutaneous emphysema on [**1-6**].
   .
   #  Aspiration Pneumonia c/b SIRS: no longer meets criteria for SIRS,
   overall improved although still with secretions
   - continue - Vanc/Zosyn for healthcare assoc aspiration pneumonia in
   setting of hx MRSA (began [**1-3**])
   - Follow blood, urine and sputum/bronch cultures
   - Trend WBC count fever curve
   - plan to eventually discuss longterm plan of care/aspiration
   precautions with family in setting of likely chronic aspiration
   .
   # Respiratory Failure with tension PTX s/p right chest tube placement:
   Chest tube on suction with minimal drainage. Tolerates CPAP w PS
   throughout the day and AC overnight for rest. RSBI does not suggest
   patient would tolerate extubation today. Likely large contribution of
   PNA and fluid overload. No air leak today.
   - chest tube to water seal, CXR this afternoon
   - Abx as above
   - attempt diuresis with lasix for goal -1L today
   - maintain CVL until extubated
   - f/u thoracics recs for chest tube management
   .
   #. Subcutaneous Emphysema: Stable to improved today after dressing
   change.
   - daily CXR
   - thoracics following
   - monitor
   .
   # Thrombocytopenia: Improved from prior, stable past couple of days.
   Ddx: dilution, heparin, H2 blocker or other medication.
   - monitor
   .
   # Paroxysmal A-fib: Converted back to sinus. Not anticoagulated.
   - continue amiodarone
   .
   # Dementia: Chronic, patient only AOx1 per previous reports, but
   unclear about her MS at the nursing home.
   - continue nemenda
   .
   # FEN: Tube feeds via OG, replete lytes PRN
   .
   # Access: R IJ, ART
   .
   # PPx: SQ heparin, boots, bowel regimen, H2 blocker
   .
   # Code:  Full code per OMR note
   .
   # Dispo:  ICU until extubated
   .
   # Comm:  HCP is [**Name2 (NI) 782**] [**Name (NI) **] [**Last Name (un) **] [**Telephone/Fax (1) 2139**]
 will be [**Telephone/Fax (1) 161**] by
   attending to discuss code status
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2106-1-8**] 05:20 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-1-3**] 03:00 PM
   Arterial Line - [**2106-1-6**] 08:12 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2106-01-09 11:08:00 Physician Attending Progress Note
Chief Complaint: Aspiration pneumonia, tension pneumothorax. acute
   respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Tachypnea with decreases in ventilator support.
   Mild hypotension after lasix yesterday; given fluids with good
   response.
   Day 6 of antibiotics. Afebrile.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-1-8**] 08:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2106-1-9**] 04:17 AM
   Infusions:
   Other ICU medications:
   Insulin - Regular - [**2106-1-8**] 10:45 AM
   Furosemide (Lasix) - [**2106-1-8**] 06:30 PM
   Midazolam (Versed) - [**2106-1-8**] 10:35 PM
   Famotidine (Pepcid) - [**2106-1-9**] 12:22 AM
   Fentanyl - [**2106-1-9**] 04:36 AM
   Heparin Sodium (Prophylaxis) - [**2106-1-9**] 08:00 AM
   Other medications:
   Colace, heparin sc, amiodarone, vit D, chlorhexidine, famotidine,
   fentanyl, senna, versed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-1-9**] 11:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.8
C (98.2
   HR: 68 (64 - 85) bpm
   BP: 109/40(63) {91/31(47) - 128/72(88)} mmHg
   RR: 21 (13 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 7 (2 - 10)mmHg
   Total In:
                                                                  2,297 mL
                                                                    786 mL
   PO:
   TF:
                                                                    842 mL
                                                                    376 mL
   IVF:
                                                                  1,140 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  2,645 mL
                                                                    705 mL
   Urine:
                                                                  2,635 mL
                                                                    615 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -348 mL
                                                                     81 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 260 (260 - 339) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 22
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35, No Spon Resp
   PIP: 12 cmH2O
   Plateau: 14 cmH2O
   SpO2: 96%
   ABG: 7.53/33/113/23/5
   Ve: 6.2 L/min
   PaO2 / FiO2: 283
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, No(t) NG tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Breath sounds obscure heart sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Hyperresonant: , No(t) Dullness : ), (Breath Sounds:
   No(t) Clear : , Crackles : Coarse upper airway sounds throughout, No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+ edema, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, Oriented (to): unable to assess on vent, Movement:
   Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   200 K/uL
   122 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.8 mEq/L
   12 mg/dL
   110 mEq/L
   142 mEq/L
   23.4 %
   10.6 K/uL
        [image002.jpg]
                            [**2106-1-6**]  02:37 PM
                            [**2106-1-6**]  10:09 PM
                            [**2106-1-6**]  10:19 PM
                            [**2106-1-7**]  04:39 AM
                            [**2106-1-7**]  05:00 AM
                            [**2106-1-7**]  12:35 PM
                            [**2106-1-8**]  03:54 AM
                            [**2106-1-8**]  04:04 AM
                            [**2106-1-8**]  03:54 PM
                            [**2106-1-9**]  04:04 AM
   WBC
   10.2
   8.7
   10.6
   Hct
   25.0
   24.9
   23.5
   23.4
   Plt
   175
   154
   200
   Cr
   0.6
   0.7
   0.6
   0.7
   TCO2
   23
   25
   23
   26
   28
   Glucose
   123
   121
   113
   122
   Other labs: PT / PTT / INR:16.7/50.3/1.5, CK / CKMB /
   Troponin-T:132/7/0.06, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL,
   Ca++:7.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 PNEUMONIA, ASPIRATION
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   ANEMIA
   PNEUMOTHORAX
   Patient very tachypneic on the ventilator, although she denies dyspnea.
   Oxygenation adequate. Tidal volumes are small (150-250) when PSV
   reduced. Still significant airway secretions. When these diminish, will
   make attempt at extubation. Continue present antibiotics.
   Hct stable. Not at transfusion threshold now.
   No fluctuations in water seal chamber with respiration. Height of water
   seal chamber 8 cm. Ask thoracic surgery to reassess tube; not clear it
   is in communication with pleural space absent respiratory variation
   (may have clot). Would like to see less water in water seal chamber.
   ICU Care
   Nutrition: Tube feeds
   Nutren Pulmonary (Full) - [**2106-1-8**] 05:20 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2106-1-3**] 03:00 PM
   Arterial Line - [**2106-1-6**] 08:12 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2106-01-10 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Patient remained tachypnic with low tidal volumes so extubation was
   defered
   - Chest tube without inspiratory/expiratory variation - noted by CT
   [**Doctor First Name 91**], but no recs to fix this.
   - Diuresed 400 cc
   - Hct slowly trending down -> iron studies c/w ACD.  Mushroom catheter
   with brown stool, cannot guiac.
   - Family updated, no new decisions.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-1-8**] 08:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2106-1-10**] 04:35 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2106-1-10**] 12:00 AM
   Famotidine (Pepcid) - [**2106-1-10**] 12:07 AM
   Heparin Sodium (Prophylaxis) - [**2106-1-10**] 12:08 AM
   Furosemide (Lasix) - [**2106-1-10**] 12:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-1-10**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.8
   HR: 70 (67 - 79) bpm
   BP: 120/49(73) {86/38(57) - 159/74(103)} mmHg
   RR: 26 (14 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 11 (4 - 11)mmHg
   Total In:
                                                                  1,967 mL
                                                                    562 mL
   PO:
   TF:
                                                                    847 mL
                                                                    235 mL
   IVF:
                                                                    740 mL
                                                                    217 mL
   Blood products:
   Total out:
                                                                  2,375 mL
                                                                  1,225 mL
   Urine:
                                                                  2,265 mL
                                                                  1,225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -408 mL
                                                                   -663 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 167 (167 - 312) mL
   PS : 12 cmH2O
   RR (Spontaneous): 23
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 179
   PIP: 13 cmH2O
   SpO2: 99%
   ABG: ///30/
   Ve: 5.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   248 K/uL
   8.0 g/dL
   128 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.7 mEq/L
   12 mg/dL
   105 mEq/L
   139 mEq/L
   24.3 %
   10.3 K/uL
        [image002.jpg]
                            [**2106-1-6**]  10:19 PM
                            [**2106-1-7**]  04:39 AM
                            [**2106-1-7**]  05:00 AM
                            [**2106-1-7**]  12:35 PM
                            [**2106-1-8**]  03:54 AM
                            [**2106-1-8**]  04:04 AM
                            [**2106-1-8**]  03:54 PM
                            [**2106-1-9**]  04:04 AM
                            [**2106-1-9**]  01:30 PM
                            [**2106-1-10**]  04:17 AM
   WBC
   10.2
   8.7
   10.6
   10.3
   Hct
   24.9
   23.5
   23.4
   24.6
   24.3
   Plt
   175
   154
   200
   248
   Cr
   0.7
   0.6
   0.7
   0.7
   TCO2
   23
   25
   23
   26
   28
   Glucose
   121
   113
   122
   128
   Other labs: PT / PTT / INR:16.7/50.3/1.5, CK / CKMB /
   Troponin-T:132/7/0.06, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL,
   Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 PNEUMONIA, ASPIRATION
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   [**Age over 90 **] year-old female with recent ICU stay for likely aspiration pneumonia
   who presented on [**1-3**] unresponsive from her nursing home with fevers,
   respiratory distress, and a tension ptx s/p chest tube placement and
   intubation with development of subcutaneous emphysema on [**1-6**].
   .
   #  Aspiration Pneumonia: no longer meets criteria for SIRS, overall
   improved although still with secretions
   - continue - Vanc/Zosyn for healthcare assoc aspiration pneumonia in
   setting of hx MRSA (began [**1-3**])
   - Trend WBC count fever curve
   - Continue to discuss long-term plan of care/aspiration precautions
   with family in setting of likely chronic aspiration
   .
   # Respiratory Failure with tension PTX s/p right chest tube placement:
   Chest tube at waterseal and patient continues to do well. Tolerates
   CPAP w PS throughout the day and AC overnight for rest. RSBI 179 and
   patient tachypnic. Likely large contribution of PNA and fluid overload.
   - chest tube to water seal
   - Abx as above
   - diuresis with lasix for goal -1L today
   - maintain CVL until extubated
   - f/u thoracics recs for chest tube management
   .
   #. Subcutaneous Emphysema: Stable to improved today after dressing
   change yesterday.
   - daily CXR
   - thoracics following
   - monitor
   .
   # Thrombocytopenia: Improved from prior, stable past couple of days.
   - monitor
   .
   # Paroxysmal A-fib: Converted back to sinus. Not anticoagulated.
   - continue amiodarone
   .
   # Dementia: Chronic, patient only AOx1 per previous reports, but
   unclear about her MS at the nursing home.
   - continue nemenda
   .
   # FEN: Tube feeds via OG, replete lytes PRN
   .
   # Access: R IJ, ART
   .
   # PPx: SQ heparin, boots, bowel regimen, H2 blocker
   .
   # Code:  Full code per OMR note
   .
   # Dispo:  ICU until extubated
   .
   # Comm:  HCP is [**Name2 (NI) 782**] [**Name (NI) **] [**Last Name (un) **] [**Telephone/Fax (1) 2139**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2106-1-9**] 09:41 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-1-3**] 03:00 PM
   Arterial Line - [**2106-1-6**] 08:12 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2106-01-10 10:30:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, pneumonia, tension
   pneumothorax, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient still requiring vent support. Diuresed yesterday - fluid
   balance 0.5 L negative. Oxygenation good on FIO2=0.4
   Hct stable.
   Afebrile.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-1-8**] 08:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2106-1-10**] 04:35 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2106-1-10**] 12:00 AM
   Famotidine (Pepcid) - [**2106-1-10**] 12:07 AM
   Heparin Sodium (Prophylaxis) - [**2106-1-10**] 08:33 AM
   Furosemide (Lasix) - [**2106-1-10**] 08:33 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-1-10**] 10:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 79 (69 - 79) bpm
   BP: 136/60(90) {86/38(57) - 159/74(103)} mmHg
   RR: 23 (18 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 7 (7 - 11)mmHg
   Total In:
                                                                  1,967 mL
                                                                    802 mL
   PO:
   TF:
                                                                    847 mL
                                                                    360 mL
   IVF:
                                                                    740 mL
                                                                    252 mL
   Blood products:
   Total out:
                                                                  2,375 mL
                                                                  2,105 mL
   Urine:
                                                                  2,265 mL
                                                                  2,105 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -408 mL
                                                                 -1,303 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 290 (167 - 312) mL
   PS : 12 cmH2O
   RR (Spontaneous): 29
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 179
   PIP: 13 cmH2O
   SpO2: 97%
   ABG: ///30/
   Ve: 7.6 L/min
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), III/VI systolic murmur heard best at apex radiating to
   axilla.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   Anterior chest), Extensive subcutaneous emphysema complicates
   auscultatory findings
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: 1+ edema, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Unable to assess - intubated, Movement:
   Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   248 K/uL
   128 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.7 mEq/L
   12 mg/dL
   105 mEq/L
   139 mEq/L
   24.3 %
   10.3 K/uL
        [image002.jpg]
                            [**2106-1-6**]  10:19 PM
                            [**2106-1-7**]  04:39 AM
                            [**2106-1-7**]  05:00 AM
                            [**2106-1-7**]  12:35 PM
                            [**2106-1-8**]  03:54 AM
                            [**2106-1-8**]  04:04 AM
                            [**2106-1-8**]  03:54 PM
                            [**2106-1-9**]  04:04 AM
                            [**2106-1-9**]  01:30 PM
                            [**2106-1-10**]  04:17 AM
   WBC
   10.2
   8.7
   10.6
   10.3
   Hct
   24.9
   23.5
   23.4
   24.6
   24.3
   Plt
   175
   154
   200
   248
   Cr
   0.7
   0.6
   0.7
   0.7
   TCO2
   23
   25
   23
   26
   28
   Glucose
   121
   113
   122
   128
   Other labs: PT / PTT / INR:16.7/50.3/1.5, CK / CKMB /
   Troponin-T:132/7/0.06, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL,
   Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR: head obscures most of left hemithorax. Right lung
   slightly improved infiltrate
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 PNEUMONIA, ASPIRATION
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   ANEMIA
   Patient hemodynamically stable. Continue to maintain negative fluid
   balance to faciliate weaning from mechanical ventilation. Oxygenation
   adequate. Airway secretions appear to be diminishing.  Complete
   antibiotics.
   Hct stable. Not at transfusion threshold yet.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2106-1-9**] 09:41 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2106-1-3**] 03:00 PM
   Arterial Line - [**2106-1-6**] 08:12 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2106-01-11 07:15:00 Physician Resident Progress Note
Chief Complaint: PNA
   24 Hour Events:
   -Diuresed 1.6L
   -Thoracics place chest tube, following, will need to be removed before
   extubation.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-1-8**] 08:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2106-1-11**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2106-1-10**] 08:33 AM
   Fentanyl - [**2106-1-10**] 02:29 PM
   Famotidine (Pepcid) - [**2106-1-11**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2106-1-11**] 12:00 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Otherwise negative
   Flowsheet Data as of  [**2106-1-11**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.6
   HR: 71 (69 - 88) bpm
   BP: 95/41(60) {95/38(60) - 144/76(100)} mmHg
   RR: 27 (0 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 6 (3 - 10)mmHg
   Total In:
                                                                  2,039 mL
                                                                    474 mL
   PO:
   TF:
                                                                    849 mL
                                                                    252 mL
   IVF:
                                                                    840 mL
                                                                    222 mL
   Blood products:
   Total out:
                                                                  3,650 mL
                                                                    560 mL
   Urine:
                                                                  3,500 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,611 mL
                                                                    -86 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 278 (271 - 335) mL
   PS : 12 cmH2O
   RR (Spontaneous): 23
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 115
   PIP: 13 cmH2O
   SpO2: 98%
   ABG: 7.48/43/113/27/8
   Ve: 7 L/min
   PaO2 / FiO2: 283
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   277 K/uL
   7.8 g/dL
   111 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.6 mEq/L
   12 mg/dL
   104 mEq/L
   138 mEq/L
   23.1 %
   8.5 K/uL
        [image002.jpg]
                            [**2106-1-7**]  05:00 AM
                            [**2106-1-7**]  12:35 PM
                            [**2106-1-8**]  03:54 AM
                            [**2106-1-8**]  04:04 AM
                            [**2106-1-8**]  03:54 PM
                            [**2106-1-9**]  04:04 AM
                            [**2106-1-9**]  01:30 PM
                            [**2106-1-10**]  04:17 AM
                             [**2106-1-11**]  04:10 AM
                             [**2106-1-11**]  04:21 AM
   WBC
   8.7
   10.6
   10.3
   8.5
   Hct
   23.5
   23.4
   24.6
   24.3
   23.1
   Plt
   154
   200
   248
   277
   Cr
   0.6
   0.7
   0.7
   0.6
   TCO2
   25
   23
   26
   28
   33
   Glucose
   113
   122
   128
   111
   Other labs: PT / PTT / INR:16.7/50.3/1.5, CK / CKMB /
   Troponin-T:132/7/0.06, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL,
   Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 PNEUMONIA, ASPIRATION
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   [**Age over 90 **] year-old female with recent ICU stay for likely aspiration pneumonia
   who presented on [**1-3**] unresponsive from her nursing home with fevers,
   respiratory distress, and a tension ptx s/p chest tube placement and
   intubation with development of subcutaneous emphysema on [**1-6**].
   .
   #  Aspiration Pneumonia: no longer meets criteria for SIRS, overall
   improved although still with secretions
   - continue - Vanc/Zosyn for healthcare assoc aspiration pneumonia in
   setting of hx MRSA (began [**1-3**])
   - Trend WBC count fever curve
   - Continue to discuss long-term plan of care/aspiration precautions
   with family in setting of likely chronic aspiration
   - next family discussion should bring up ? specifically for PEG tube
   .
   # Respiratory Failure with tension PTX s/p right chest tube placement:
   Chest tube at waterseal and patient continues to do well. Tolerates
   CPAP w PS throughout the day and AC overnight for rest. RSBI 179 and
   patient tachypnic. Likely large contribution of PNA and fluid overload.
   - chest tube to water seal
   - Abx as above
   - diuresis with lasix for goal -1L today
   - maintain CVL until extubated
   - f/u thoracics recs for chest tube management
   .
   #. Subcutaneous Emphysema: Stable to improved today after dressing
   change yesterday.
   - daily CXR
   - thoracics following
   - monitor
   .
   # Thrombocytopenia: Improved from prior, stable past couple of days.
   - monitor
   .
   # Paroxysmal A-fib: Converted back to sinus. Not anticoagulated.
   - continue amiodarone
   .
   # Dementia: Chronic, patient only AOx1 per previous reports, but
   unclear about her MS at the nursing home.
   - continue nemenda
   .
   # FEN: Tube feeds via OG, replete lytes PRN
   .
   # Access: R IJ, ART
   .
   # PPx: SQ heparin, boots, bowel regimen, H2 blocker
   .
   # Code:  Full code per OMR note
   .
   # Dispo:  ICU until extubated
   .
   # Comm:  HCP is [**Name2 (NI) 782**] [**Name (NI) **] [**Last Name (un) **] [**Telephone/Fax (1) 2139**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2106-1-11**] 01:57 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-1-3**] 03:00 PM
   Arterial Line - [**2106-1-6**] 08:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2106-01-11 11:43:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **] year female  with respiratory failure secondary to pneumonia and
   sepsis.
   24 Hour Events:
   Overnight, had about 1.5 liters off.  No new complaints.  History
   obtained from medical records/chart as patient unable to communicate.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2106-1-11**] 04:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2106-1-10**] 02:29 PM
   Famotidine (Pepcid) - [**2106-1-11**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2106-1-11**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Unable
   Flowsheet Data as of  [**2106-1-11**] 11:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.4
   HR: 75 (69 - 88) bpm
   BP: 102/63(79) {95/38(60) - 144/76(100)} mmHg
   RR: 26 (0 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 12 (4 - 12)mmHg
   Total In:
                                                                  2,039 mL
                                                                    848 mL
   PO:
   TF:
                                                                    849 mL
                                                                    404 mL
   IVF:
                                                                    840 mL
                                                                    265 mL
   Blood products:
   Total out:
                                                                  3,650 mL
                                                                    985 mL
   Urine:
                                                                  3,500 mL
                                                                    985 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,611 mL
                                                                   -137 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 387 (271 - 387) mL
   PS : 12 cmH2O
   RR (Spontaneous): 29
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 115
   PIP: 12 cmH2O
   SpO2: 97%
   ABG: 7.48/43/113/27/8
   Ve: 9.4 L/min
   PaO2 / FiO2: 283
   Physical Examination
   Intubated,
   CTA bilaterally
   Cardiovascular: (S1: Normal), (S2: Normal)
   Abd: Soft, NT ND
   Skin:  warm
   Neurologic: no focal neuro findings
   Labs / Radiology
   7.8 g/dL
   277 K/uL
   111 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.6 mEq/L
   12 mg/dL
   104 mEq/L
   138 mEq/L
   23.1 %
   8.5 K/uL
        [image002.jpg]
                            [**2106-1-7**]  05:00 AM
                            [**2106-1-7**]  12:35 PM
                            [**2106-1-8**]  03:54 AM
                            [**2106-1-8**]  04:04 AM
                            [**2106-1-8**]  03:54 PM
                            [**2106-1-9**]  04:04 AM
                            [**2106-1-9**]  01:30 PM
                            [**2106-1-10**]  04:17 AM
                             [**2106-1-11**]  04:10 AM
                             [**2106-1-11**]  04:21 AM
   WBC
   8.7
   10.6
   10.3
   8.5
   Hct
   23.5
   23.4
   24.6
   24.3
   23.1
   Plt
   154
   200
   248
   277
   Cr
   0.6
   0.7
   0.7
   0.6
   TCO2
   25
   23
   26
   28
   33
   Glucose
   113
   122
   128
   111
   Other labs: PT / PTT / INR:16.7/50.3/1.5, CK / CKMB /
   Troponin-T:132/7/0.06, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL,
   Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 PNEUMONIA, ASPIRATION
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   1) Aspiration Pneumonia
   - Continue antibiotics
   2) Respiratory Failure secondary to pneumonia/sepsis now
   resolved/resolving and with pulmonary edema
   - Aggressive diuresis
   - Goal: 2 liters off
   - unable to extubate today (very high RSBI) and will attempt again
   tomorrow after more fluid off
   3) Pneumothorax - s/p chest tube
   - subcutaneous emphysema is resolving
   -
   Plan: continue to monitor chest tube and will plan to remove after
   patient is extubated.
   4)
   5)
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2106-1-11**] 01:57 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-1-3**] 03:00 PM
   Arterial Line - [**2106-1-6**] 08:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent:  35 (patient is critically ill)

2106-01-12 07:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Received lasix 10 iv x1 at am ROUNDS;  At 1700 pt was - 400 --> Redosed
   Lasix 20 mg IV x1 at 1700
   - Holding Vancomycin for supratherapeutic level 25 on [**1-10**]
   - Thoracics - daily cxr, ct to water seal
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2106-1-12**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2106-1-11**] 06:00 PM
   Famotidine (Pepcid) - [**2106-1-12**] 12:37 AM
   Heparin Sodium (Prophylaxis) - [**2106-1-12**] 12:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-1-12**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.5
C (97.7
   HR: 72 (68 - 80) bpm
   BP: 112/40(65) {79/40(62) - 144/76(92)} mmHg
   RR: 20 (18 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 5 (5 - 12)mmHg
   Total In:
                                                                  1,719 mL
                                                                    505 mL
   PO:
   TF:
                                                                    850 mL
                                                                    277 mL
   IVF:
                                                                    589 mL
                                                                    228 mL
   Blood products:
   Total out:
                                                                  2,710 mL
                                                                  1,090 mL
   Urine:
                                                                  2,710 mL
                                                                    600 mL
   NG:
   Stool:
                                                                    450 mL
   Drains:
   Balance:
                                                                   -991 mL
                                                                   -585 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 335 (311 - 375) mL
   PS : 12 cmH2O
   RR (Spontaneous): 30
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 13 cmH2O
   SpO2: 97%
   ABG: ///32/
   Ve: 6.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   382 K/uL
   7.8 g/dL
   110 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.4 mEq/L
   12 mg/dL
   99 mEq/L
   136 mEq/L
   22.9 %
   10.1 K/uL
        [image002.jpg]
                            [**2106-1-7**]  12:35 PM
                            [**2106-1-8**]  03:54 AM
                            [**2106-1-8**]  04:04 AM
                            [**2106-1-8**]  03:54 PM
                            [**2106-1-9**]  04:04 AM
                            [**2106-1-9**]  01:30 PM
                            [**2106-1-10**]  04:17 AM
                             [**2106-1-11**]  04:10 AM
                             [**2106-1-11**]  04:21 AM
                             [**2106-1-12**]  04:51 AM
   WBC
   8.7
   10.6
   10.3
   8.5
   10.1
   Hct
   23.5
   23.4
   24.6
   24.3
   23.1
   22.9
   Plt
   154
   200
   248
   277
   382
   Cr
   0.6
   0.7
   0.7
   0.6
   0.6
   TCO2
   23
   26
   28
   33
   Glucose
   113
   122
   128
   111
   110
   Other labs: PT / PTT / INR:16.7/50.3/1.5, CK / CKMB /
   Troponin-T:132/7/0.06, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL,
   Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 PNEUMONIA, ASPIRATION
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   [**Age over 90 **] year-old female with recent ICU stay for likely aspiration pneumonia
   who presented on [**1-3**] unresponsive from her nursing home with fevers,
   respiratory distress, and a tension ptx s/p chest tube placement and
   intubation with development of subcutaneous emphysema on [**1-6**], now in
   wet phase, diuresing.
   .
   #  Aspiration Pneumonia: no longer meets criteria for SIRS, overall
   improved although still with secretions
   - continue
 Vanc, Zosyn for healthcare assoc aspiration pneumonia in
   setting of hx MRSA (began [**1-3**])
   - Trend WBC count fever curve
   -f/u Vanc level this AM.  Holding Vancomycin for supratherapeutic level
   25 on [**1-10**] redose if necessary.
   - Continue to discuss long-term plan of care/aspiration precautions
   with family in setting of likely chronic aspiration
   - next family discussion should bring up ? specifically for PEG tube
   .
   # Respiratory Failure with tension PTX s/p right chest tube placement:
   Chest tube at waterseal and patient continues to do well. Tolerates
   CPAP w PS throughout the day and AC overnight for rest. RSBI 179 and
   patient tachypnic. Likely large contribution of PNA and fluid overload.
   - continue chest tube to water seal; follow-up thoracic recs.
   - Abx as above
   - diuresis: Patient  was negative 1L yesterday despite 30mL of Lasix.
   Lasix for goal -2L today as BP supports.
   - maintain CVL until extubated
   .
   #. Subcutaneous Emphysema: Stable to improved today after dressing
   change yesterday.
   - daily CXR
   - thoracics following
   - monitor
   .
   # Thrombocytopenia: Improved from prior, stable past couple of days.
   - monitor
   .
   # Paroxysmal A-fib: Converted back to sinus. Not anticoagulated.
   - continue amiodarone
   .
   # Dementia: Chronic, patient only AOx1 per previous reports, but
   unclear about her MS at the nursing home.
   - continue nemenda
   .
   # FEN: Tube feeds via OG, replete lytes PRN
   .
   # Access: R IJ, ART
   .
   # PPx: SQ heparin, boots, bowel regimen, H2 blocker
   .
   # Code:  Full code per OMR note
   .
   # Dispo:  ICU until extubated
   .
   # Comm:  HCP is [**Name2 (NI) 782**] [**Name (NI) **] [**Last Name (un) **] [**Telephone/Fax (1) 2139**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2106-1-12**] 06:10 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-1-3**] 03:00 PM
   Arterial Line - [**2106-1-6**] 08:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2106-01-12 10:01:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **] year old female
   24 Hour Events:
   Overnight, received multiple doses of lasix and was 1 liter negative
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2106-1-12**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2106-1-11**] 06:00 PM
   Famotidine (Pepcid) - [**2106-1-12**] 12:37 AM
   Heparin Sodium (Prophylaxis) - [**2106-1-12**] 08:01 AM
   Other medications:
   Med list reviewed - See [**Month (only) **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-1-12**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 35.9
C (96.7
   HR: 74 (68 - 80) bpm
   BP: 113/46(71) {79/40(62) - 144/76(92)} mmHg
   RR: 27 (18 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 5 (5 - 12)mmHg
   Total In:
                                                                  1,719 mL
                                                                    813 mL
   PO:
   TF:
                                                                    850 mL
                                                                    345 mL
   IVF:
                                                                    589 mL
                                                                    248 mL
   Blood products:
   Total out:
                                                                  2,710 mL
                                                                  1,260 mL
   Urine:
                                                                  2,710 mL
                                                                    770 mL
   NG:
   Stool:
                                                                    450 mL
   Drains:
   Balance:
                                                                   -991 mL
                                                                   -447 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 333 (311 - 375) mL
   PS : 12 cmH2O
   RR (Spontaneous): 21
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 12 cmH2O
   SpO2: 98%
   ABG: ///32/
   Ve: 7 L/min
   Physical Examination
   General Appearance: Thin, Intubated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   [**Year (4 digits) 358**] / Radiology
   7.8 g/dL
   382 K/uL
   110 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.4 mEq/L
   12 mg/dL
   99 mEq/L
   136 mEq/L
   22.9 %
   10.1 K/uL
        [image002.jpg]
                            [**2106-1-7**]  12:35 PM
                            [**2106-1-8**]  03:54 AM
                            [**2106-1-8**]  04:04 AM
                            [**2106-1-8**]  03:54 PM
                            [**2106-1-9**]  04:04 AM
                            [**2106-1-9**]  01:30 PM
                            [**2106-1-10**]  04:17 AM
                             [**2106-1-11**]  04:10 AM
                             [**2106-1-11**]  04:21 AM
                             [**2106-1-12**]  04:51 AM
   WBC
   8.7
   10.6
   10.3
   8.5
   10.1
   Hct
   23.5
   23.4
   24.6
   24.3
   23.1
   22.9
   Plt
   154
   200
   248
   277
   382
   Cr
   0.6
   0.7
   0.7
   0.6
   0.6
   TCO2
   23
   26
   28
   33
   Glucose
   113
   122
   128
   111
   110
   Other [**Year (4 digits) **]: PT / PTT / INR:16.7/50.3/1.5, CK / CKMB /
   Troponin-T:132/7/0.06, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL,
   Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 PNEUMONIA, ASPIRATION
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   1) Respiratory Failure
   - initially secondary to pneumonia/sepsis and now pulmonary edema
   Plan:
   - continue to diuresis
   - Aggressive diuresis with goal of 2+ liters
   2) Pneumonia/sepsis
   - Continue antibiotics to complete a 10 day course
   3) Pneumothorax/subcutaneous emphysema
   4) Atrial Fibrillation
   - amiodaraone
   5) Right IJ
   - attempt peripheral access and d/c central line if possible
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2106-1-12**] 06:10 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-1-3**] 03:00 PM
   Arterial Line - [**2106-1-6**] 08:12 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2106-01-13 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2106-1-12**] 04:00 PM
 MULTI LUMEN - STOP [**2106-1-12**] 05:59 PM
   -Failed RSBI yesterday (PS12
   -Was 1.5L after first dose Lasix, en route to 3L negative
   -Thoracics concerned for slight recurring pneumo, unclamped tube and
   placed to water seal.
   -Got Vanco
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-1-12**] 10:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2106-1-13**] 04:02 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-1-12**] 04:00 PM
   Furosemide (Lasix) - [**2106-1-12**] 04:00 PM
   Fentanyl - [**2106-1-13**] 01:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-1-13**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.3
C (97.3
   HR: 77 (70 - 79) bpm
   BP: 141/68(139) {85/43(69) - 160/93(143)} mmHg
   RR: 21 (16 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54 kg (admission): 47.9 kg
   Height: 62 Inch
             Total In:
                                                                  2,047 mL
                                                                    433 mL
   PO:
             TF:
                                                                    847 mL
                                                                    259 mL
   IVF:
                                                                    790 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                  4,810 mL
                                                                    545 mL
   Urine:
                                                                  4,320 mL
                                                                    515 mL
   NG:
   Stool:
                                                                    450 mL
   Drains:
   Balance:
                                                                 -2,763 mL
                                                                   -112 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 222 (222 - 333) mL
   PS : 10 cmH2O
   RR (Spontaneous): 33
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 166
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.49/45/106//9
   Ve: 9.8 L/min
   PaO2 / FiO2: 265
   Physical Examination
   Labs / Radiology
   401 K/uL
   7.9 g/dL
   110 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.6 mEq/L
   12 mg/dL
   98 mEq/L
   140 mEq/L
   23.8 %
   9.3 K/uL
        [image002.jpg]
                            [**2106-1-8**]  03:54 PM
                            [**2106-1-9**]  04:04 AM
                            [**2106-1-9**]  01:30 PM
                            [**2106-1-10**]  04:17 AM
                             [**2106-1-11**]  04:10 AM
                             [**2106-1-11**]  04:21 AM
                             [**2106-1-12**]  04:51 AM
                             [**2106-1-12**]  04:23 PM
                             [**2106-1-13**]  06:16 AM
                             [**2106-1-13**]  06:35 AM
   WBC
   10.6
   10.3
   8.5
   10.1
   9.3
   Hct
   23.4
   24.6
   24.3
   23.1
   22.9
   23.8
   Plt
   200
   248
   277
   382
   401
   Cr
   0.7
   0.7
   0.6
   0.6
   0.6
   TCO2
   28
   33
   35
   Glucose
   122
   128
   111
   110
   Other labs: PT / PTT / INR:16.7/50.3/1.5, CK / CKMB /
   Troponin-T:132/7/0.06, Differential-Neuts:83.1 %, Lymph:9.7 %, Mono:2.7
   %, Eos:4.2 %, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL, Ca++:7.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 PNEUMONIA, ASPIRATION
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   .
   [**Age over 90 **] year-old female with recent ICU stay for likely aspiration pneumonia
   who presented on [**1-3**] unresponsive from her nursing home with fevers,
   respiratory distress, and a tension ptx s/p chest tube placement and
   intubation with development of subcutaneous emphysema on [**1-6**], now
   diuresing.
   .
   #  Aspiration Pneumonia: no longer meets criteria for SIRS, overall
   improved although still with secretions
   - continue
 Vanc, Zosyn for healthcare assoc aspiration pneumonia in
   setting of hx MRSA (began [**1-3**])
   - Trend WBC count fever curve
   - Got Vanco yesterday
   - Continue to discuss long-term plan of care/aspiration precautions
   with family in setting of likely chronic aspiration
   - next family discussion should bring up ? specifically for PEG tube
   .
   # Respiratory Failure with tension PTX s/p right chest tube placement:
   Chest tube at waterseal and patient continues to do well. Tolerates
   CPAP w PS throughout the day and AC overnight for rest. RSBI often
   below 100 but on wean to 8 becomes tachypnic.
   - continue chest tube to water seal; follow-up thoracic recs.
   - Abx as above
   - diuresis: Patient  was negative 2700cc
s yesterday, achieving goals.
   - maintain CVL until extubated
   .
   #. Subcutaneous Emphysema: Stable to improved today after dressing
   change yesterday.
   - daily CXR
   - thoracics following
   - monitor
   .
   # Thrombocytopenia: Improved from prior, stable past couple of days.
   - monitor
   .
   # Paroxysmal A-fib: Converted back to sinus. Not anticoagulated.
   - continue amiodarone
   .
   # Dementia: Chronic, patient only AOx1 per previous reports, but
   unclear about her MS at the nursing home.
   - continue nemenda
   .
   # FEN: Tube feeds via OG, replete lytes PRN
   .
   # Access: R IJ, ART
   .
   # PPx: SQ heparin, boots, bowel regimen, H2 blocker
   .
   # Code:  Full code per OMR note
   .
   # Dispo:  ICU until extubated
   .
   # Comm:  HCP is [**Name2 (NI) 782**] [**Name (NI) **] [**Last Name (un) **] [**Telephone/Fax (1) 2139**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2106-1-12**] 06:10 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2106-1-6**] 08:12 PM
   PICC Line - [**2106-1-12**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2106-01-13 10:21:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Overnight, was negative 3 liters of fluids.  Still on pressure support
   with high RSBI earlier this morning.
   24 Hour Events:
 PICC LINE - START [**2106-1-12**] 04:00 PM
 MULTI LUMEN - STOP [**2106-1-12**] 05:59 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-1-12**] 10:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2106-1-13**] 04:02 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2106-1-12**] 04:00 PM
   Fentanyl - [**2106-1-13**] 01:28 AM
   Heparin Sodium (Prophylaxis) - [**2106-1-13**] 08:00 AM
   Other medications:
   Med list reviewed - See [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-1-13**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.8
C (96.5
   HR: 71 (70 - 83) bpm
   BP: 153/144(149) {85/43(66) - 160/144(149)} mmHg
   RR: 22 (16 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54 kg (admission): 47.9 kg
   Height: 62 Inch
             Total In:
                                                                  2,047 mL
                                                                    696 mL
   PO:
             TF:
                                                                    847 mL
                                                                    355 mL
   IVF:
                                                                    790 mL
                                                                    201 mL
   Blood products:
   Total out:
                                                                  4,810 mL
                                                                    715 mL
   Urine:
                                                                  4,320 mL
                                                                    685 mL
   NG:
   Stool:
                                                                    450 mL
   Drains:
   Balance:
                                                                 -2,763 mL
                                                                    -19 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 275 (222 - 306) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 166
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: 7.49/45/106/33/9
   Ve: 6.4 L/min
   PaO2 / FiO2: 265
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.9 g/dL
   401 K/uL
   106 mg/dL
   0.7 mg/dL
   33 mEq/L
   3.8 mEq/L
   13 mg/dL
   98 mEq/L
   136 mEq/L
   23.8 %
   9.3 K/uL
         [image002.jpg]
                            [**2106-1-8**]  03:54 PM
                            [**2106-1-9**]  04:04 AM
                            [**2106-1-9**]  01:30 PM
                            [**2106-1-10**]  04:17 AM
                             [**2106-1-11**]  04:10 AM
                             [**2106-1-11**]  04:21 AM
                             [**2106-1-12**]  04:51 AM
                             [**2106-1-12**]  04:23 PM
                             [**2106-1-13**]  06:16 AM
                             [**2106-1-13**]  06:35 AM
   WBC
   10.6
   10.3
   8.5
   10.1
   9.3
   Hct
   23.4
   24.6
   24.3
   23.1
   22.9
   23.8
   Plt
   200
   248
   277
   382
   401
   Cr
   0.7
   0.7
   0.6
   0.6
   0.6
   0.7
   TCO2
   28
   33
   35
   Glucose
   122
   128
   111
   110
   106
   Other labs: PT / PTT / INR:12.8/43.2/1.1, CK / CKMB /
   Troponin-T:132/7/0.06, Differential-Neuts:83.1 %, Lymph:9.7 %, Mono:2.7
   %, Eos:4.2 %, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL, Ca++:8.0 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 PNEUMONIA, ASPIRATION
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   1) Respiratory Failure
   - initially secondary to pneumonia/sepsis but now likely pulmonary
   edema
   - Zosyn/Vanc Day # 9: complete 10 day course
   - Continue aggressive diuresis
   2) Pneumothorax s/p chest tube
   3) Anemia/Thrombocytopenia: follow hct/plts
   4) Access: PICC in place and IJ removed
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2106-1-12**] 06:10 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2106-1-6**] 08:12 PM
   PICC Line - [**2106-1-12**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 minutes (patient is critically ill)

2106-01-14 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Chest tube was placed to suction for recurrent pneumothorax
   - Completed antibiotic course
   - Given 40mg Lasix x2 with good diuresis. Down 2.6L
   - Hypotensive, given 250cc bolus at 4am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-1-12**] 10:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2106-1-13**] 04:02 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-1-13**] 02:00 PM
   Furosemide (Lasix) - [**2106-1-13**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-1-14**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.9
   HR: 79 (70 - 86) bpm
   BP: 86/41(58) {73/33(49) - 153/144(149)} mmHg
   RR: 24 (11 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54 kg (admission): 47.9 kg
   Height: 62 Inch
             Total In:
                                                                  1,506 mL
                                                                    608 mL
   PO:
             TF:
                                                                    846 mL
                                                                    240 mL
   IVF:
                                                                    340 mL
                                                                    318 mL
   Blood products:
   Total out:
                                                                  3,195 mL
                                                                  1,620 mL
   Urine:
                                                                  3,165 mL
                                                                  1,580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,689 mL
                                                                 -1,012 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 353 (275 - 356) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 115
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.53/46/95.[**Numeric Identifier 253**]/34/14
   Ve: 6.8 L/min
   PaO2 / FiO2: 240
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   368 K/uL
   7.8 g/dL
   108 mg/dL
   0.6 mg/dL
   34 mEq/L
   3.9 mEq/L
   14 mg/dL
   98 mEq/L
   138 mEq/L
   23.5 %
   11.6 K/uL
        [image002.jpg]
                            [**2106-1-10**]  04:17 AM
                             [**2106-1-11**]  04:10 AM
                             [**2106-1-11**]  04:21 AM
                             [**2106-1-12**]  04:51 AM
                             [**2106-1-12**]  04:23 PM
                             [**2106-1-13**]  06:16 AM
                             [**2106-1-13**]  06:35 AM
                             [**2106-1-13**]  04:33 PM
                             [**2106-1-14**]  04:12 AM
                             [**2106-1-14**]  04:29 AM
   WBC
   10.3
   8.5
   10.1
   9.3
   11.6
   Hct
   24.3
   23.1
   22.9
   23.8
   23.5
   Plt
   [**Telephone/Fax (3) 3027**]01
   368
   Cr
   0.7
   0.6
   0.6
   0.6
   0.7
   0.9
   0.6
   TCO2
   33
   35
   40
   Glucose
   128
   111
   110
   106
   108
   108
   Other labs: PT / PTT / INR:12.9/62.4/1.1, CK / CKMB /
   Troponin-T:132/7/0.06, Differential-Neuts:83.1 %, Lymph:9.7 %, Mono:2.7
   %, Eos:4.2 %, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL, Ca++:8.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 PNEUMONIA, ASPIRATION
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   [**Age over 90 **] year-old female with recent ICU stay for likely aspiration pneumonia
   who presented on [**1-3**] unresponsive from her nursing home with fevers,
   respiratory distress, and a tension ptx s/p chest tube placement and
   intubation with development of subcutaneous emphysema on [**1-6**], now
   diuresing.
   .
   #  Aspiration Pneumonia: no longer meets criteria for SIRS, overall
   improved although still with secretions
   - continue
   -Stop Vanc/Zosyn (began [**1-3**])
   - Trend WBC count fever curve
   - Continue to discuss long-term plan of care/aspiration precautions
   with family in setting of likely chronic aspiration
   - next family discussion should bring up ? specifically for PEG tube
   .
   # Respiratory Failure with tension PTX s/p right chest tube placement:
   Chest tube at waterseal and patient continues to do well. Tolerates
   CPAP w PS throughout the day and AC overnight for rest. RSBI often
   below 100 but on wean to 8 becomes tachypnic.
   - continue chest tube to water seal; follow-up thoracic recs.
   - Abx as above
   - diuresis: Patient  was negative 1500cc
s yesterday, achieving goals.
   - maintain CVL until extubated
   .
   #. Subcutaneous Emphysema: Improving.
   - daily CXR
   - thoracics following
   - monitor
   .
   # Thrombocytopenia: Improved from prior, stable past couple of days.
   - monitor
   .
   # Paroxysmal A-fib: Converted back to sinus. Not anticoagulated.
   - continue amiodarone
   .
   # Dementia: Chronic, patient only AOx1 per previous reports, but
   unclear about her MS at the nursing home.
   - continue nemenda
   .
   # FEN: Tube feeds via OG, replete lytes PRN
   .
   # Access: R IJ, ART
   .
   # PPx: SQ heparin, boots, bowel regimen, H2 blocker
   .
   # Code:  Full code per OMR note
   .
   # Dispo:  ICU until extubated
   .
   # Comm:  HCP is [**Name2 (NI) 782**] [**Name (NI) **] [**Last Name (un) **] [**Telephone/Fax (1) 2139**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2106-1-13**] 10:31 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2106-1-6**] 08:12 PM
   PICC Line - [**2106-1-12**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2106-01-14 10:59:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **] year old female with respiratory failure secondary to pneumonia now
   with pulmonary edema.  Overnight, no new complaints.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-1-12**] 10:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2106-1-13**] 04:02 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-1-13**] 02:00 PM
   Furosemide (Lasix) - [**2106-1-13**] 11:30 PM
   Other medications:
   Med List reviewed - See [**Month (only) **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-1-14**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.9
   HR: 77 (70 - 86) bpm
   BP: 96/46(64) {73/33(49) - 129/67(89)} mmHg
   RR: 12 (11 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54 kg (admission): 47.9 kg
   Height: 62 Inch
             Total In:
                                                                  1,506 mL
                                                                    780 mL
   PO:
             TF:
                                                                    846 mL
                                                                    374 mL
   IVF:
                                                                    340 mL
                                                                    356 mL
   Blood products:
   Total out:
                                                                  3,195 mL
                                                                  1,620 mL
   Urine:
                                                                  3,165 mL
                                                                  1,580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,689 mL
                                                                   -839 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 279 (279 - 356) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 115
   PIP: 10 cmH2O
   SpO2: 97%
   ABG: 7.53/46/95.[**Numeric Identifier 253**]/34/14
   Ve: 7.1 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General Appearance: Thin, intubated
   Chest: CTA bilaterally
   Cardiovascular: (S1: Normal), (S2: Normal)
   Abd: Soft, NTND
   Extremities: Right: 1+, Left: 1+ edema
   Skin:  warm
   Neurologic: No focal neurological findings
   Labs / Radiology
   7.8 g/dL
   368 K/uL
   108 mg/dL
   0.6 mg/dL
   34 mEq/L
   3.9 mEq/L
   14 mg/dL
   98 mEq/L
   138 mEq/L
   23.5 %
   11.6 K/uL
        [image002.jpg]
                            [**2106-1-10**]  04:17 AM
                             [**2106-1-11**]  04:10 AM
                             [**2106-1-11**]  04:21 AM
                             [**2106-1-12**]  04:51 AM
                             [**2106-1-12**]  04:23 PM
                             [**2106-1-13**]  06:16 AM
                             [**2106-1-13**]  06:35 AM
                             [**2106-1-13**]  04:33 PM
                             [**2106-1-14**]  04:12 AM
                             [**2106-1-14**]  04:29 AM
   WBC
   10.3
   8.5
   10.1
   9.3
   11.6
   Hct
   24.3
   23.1
   22.9
   23.8
   23.5
   Plt
   [**Telephone/Fax (3) 3027**]01
   368
   Cr
   0.7
   0.6
   0.6
   0.6
   0.7
   0.9
   0.6
   TCO2
   33
   35
   40
   Glucose
   128
   111
   110
   106
   108
   108
   Other labs: PT / PTT / INR:12.9/62.4/1.1, CK / CKMB /
   Troponin-T:132/7/0.06, Differential-Neuts:83.1 %, Lymph:9.7 %, Mono:2.7
   %, Eos:4.2 %, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL, Ca++:8.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 PNEUMONIA, ASPIRATION
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   1)Respiratory Failure
   - initially secondary to pneumonia and sepsis but has since improved
   and now with pulmonary edema
 however, cxr today has more dense
   opacity in right lower lobe which may be fluid, early HAP, atelectasis
   Plan:
   - Question of new infiltrate in right lower lobe which could be
   atelectasis  or potentially developing HAP although no fever or
   significant secretions at this point -> will follow closely and if any
   signs of infection or increased secretions or worsening infiltrate,
   then will re-start antibiotics
   - Continue diuresis
   - Discuss with family whether would want to pursue tracheostomy if
   unable to wean off ventilator
 in meantime, continue to work toward
   extubation
   2)Pneumothorax:
   - persistent leak and cannot discontinue chest tube at this time
keep
   on suction for now
   3) Anemia
 follow hematocrit
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2106-1-13**] 10:31 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2106-1-6**] 08:12 PM
   PICC Line - [**2106-1-12**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 (patient is critically ill)

2106-01-15 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-1-12**] 10:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2106-1-13**] 04:02 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2106-1-14**] 12:25 PM
   Heparin Sodium (Prophylaxis) - [**2106-1-14**] 10:00 PM
   Famotidine (Pepcid) - [**2106-1-15**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-1-15**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.3
C (97.3
   HR: 80 (69 - 82) bpm
   BP: 74/53(63) {74/35(52) - 153/66(98)} mmHg
   RR: 22 (12 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54 kg (admission): 47.9 kg
   Height: 62 Inch
             Total In:
                                                                  1,095 mL
                                                                    148 mL
   PO:
             TF:
                                                                    525 mL
   IVF:
                                                                    490 mL
                                                                    118 mL
   Blood products:
   Total out:
                                                                  2,765 mL
                                                                    140 mL
   Urine:
                                                                  2,675 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,670 mL
                                                                      8 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 249 (249 - 290) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 142
   PIP: 10 cmH2O
   SpO2: 98%
   ABG: ///34/
   Ve: 5.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   486 K/uL
   7.6 g/dL
   114 mg/dL
   0.6 mg/dL
   34 mEq/L
   3.7 mEq/L
   15 mg/dL
   99 mEq/L
   139 mEq/L
   22.6 %
   12.0 K/uL
        [image002.jpg]
                             [**2106-1-11**]  04:21 AM
                             [**2106-1-12**]  04:51 AM
                             [**2106-1-12**]  04:23 PM
                             [**2106-1-13**]  06:16 AM
                             [**2106-1-13**]  06:35 AM
                             [**2106-1-13**]  04:33 PM
                             [**2106-1-14**]  04:12 AM
                             [**2106-1-14**]  04:29 AM
                             [**2106-1-14**]  04:15 PM
                             [**2106-1-15**]  04:15 AM
   WBC
   10.1
   9.3
   11.6
   12.0
   12.0
   Hct
   22.9
   23.8
   23.5
   23.4
   22.6
   Plt
   382
   401
   368
   502
   486
   Cr
   0.6
   0.6
   0.7
   0.9
   0.6
   0.6
   TCO2
   33
   35
   40
   Glucose
   110
   106
   108
   108
   114
   Other labs: PT / PTT / INR:12.9/62.4/1.1, CK / CKMB /
   Troponin-T:132/7/0.06, Differential-Neuts:83.1 %, Lymph:9.7 %, Mono:2.7
   %, Eos:4.2 %, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL, Ca++:8.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 PNEUMONIA, ASPIRATION
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2106-1-6**] 08:12 PM
   PICC Line - [**2106-1-12**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2106-01-15 12:37:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Overnight,
   Gram positives in sputum
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2106-1-13**] 04:02 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2106-1-15**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2106-1-15**] 08:32 AM
   Other medications:
   Med List Reviewed - See [**Month (only) **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-1-15**] 12:36 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.2
   HR: 78 (69 - 82) bpm
   BP: 95/58(71) {74/35(52) - 111/74(87)} mmHg
   RR: 26 (18 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54 kg (admission): 47.9 kg
   Height: 62 Inch
             Total In:
                                                                  1,095 mL
                                                                    264 mL
   PO:
             TF:
                                                                    525 mL
   IVF:
                                                                    490 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                  2,765 mL
                                                                    438 mL
   Urine:
                                                                  2,675 mL
                                                                    438 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,670 mL
                                                                   -174 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 301 (249 - 387) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 142
   PIP: 10 cmH2O
   SpO2: 98%
   ABG: ///34/
   Ve: 6.9 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.6 g/dL
   486 K/uL
   114 mg/dL
   0.6 mg/dL
   34 mEq/L
   3.7 mEq/L
   15 mg/dL
   99 mEq/L
   139 mEq/L
   22.6 %
   12.0 K/uL
        [image002.jpg]
                             [**2106-1-11**]  04:21 AM
                             [**2106-1-12**]  04:51 AM
                             [**2106-1-12**]  04:23 PM
                             [**2106-1-13**]  06:16 AM
                             [**2106-1-13**]  06:35 AM
                             [**2106-1-13**]  04:33 PM
                             [**2106-1-14**]  04:12 AM
                             [**2106-1-14**]  04:29 AM
                             [**2106-1-14**]  04:15 PM
                             [**2106-1-15**]  04:15 AM
   WBC
   10.1
   9.3
   11.6
   12.0
   12.0
   Hct
   22.9
   23.8
   23.5
   23.4
   22.6
   Plt
   382
   401
   368
   502
   486
   Cr
   0.6
   0.6
   0.7
   0.9
   0.6
   0.6
   TCO2
   33
   35
   40
   Glucose
   110
   106
   108
   108
   114
   Other labs: PT / PTT / INR:12.9/62.4/1.1, CK / CKMB /
   Troponin-T:132/7/0.06, Differential-Neuts:83.1 %, Lymph:9.7 %, Mono:2.7
   %, Eos:4.2 %, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL, Ca++:8.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 PNEUMONIA, ASPIRATION
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   1) Respiratory Failure
   - Continue diuresis overnight
   - Discuss with family plan if fail
   2) Pnuemothorax - improved
   3) Atrial Fibrillation
   - continue amiodarone
   4)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2106-1-6**] 08:12 PM
   PICC Line - [**2106-1-12**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2106-01-16 08:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2106-1-15**] 02:42 PM
   -Some brief  apnic spells reported, but generally good RSB
s in 70
   and 80
   -Spoke with family last night: Still no decision on trach, but leaning
   toward placement of trach if necessary.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2106-1-15**] 12:51 PM
   Heparin Sodium (Prophylaxis) - [**2106-1-15**] 10:00 PM
   Famotidine (Pepcid) - [**2106-1-16**] 12:09 AM
   Other medications:
   Changes to medical and family history: No changes.
   Review of systems is unchanged from admission except as noted below
   Review of systems: Negative.
   Flowsheet Data as of  [**2106-1-16**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.8
   HR: 72 (71 - 84) bpm
   BP: 93/41(53) {79/35(47) - 128/55(73)} mmHg
   RR: 14 (14 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54 kg (admission): 47.9 kg
   Height: 62 Inch
             Total In:
                                                                  1,481 mL
                                                                    482 mL
   PO:
             TF:
                                                                    841 mL
                                                                    281 mL
   IVF:
                                                                    290 mL
                                                                    130 mL
   Blood products:
   Total out:
                                                                  1,193 mL
                                                                    190 mL
   Urine:
                                                                  1,193 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    288 mL
                                                                    292 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 254 (231 - 477) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 26
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 41
   PIP: 5 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: ///36/
   Ve: 6.1 L/min
   Physical Examination
   There is no change in exam from yesterday except for:
   Mental Status: increased alertness this AM. Patient interacts by
   nodding head
 when asked questions. Attempts to raise head. Eyes
   track purposefully around room.
   Labs / Radiology
   437 K/uL
   7.4 g/dL
   99 mg/dL
   0.7 mg/dL
   36 mEq/L
   3.6 mEq/L
   17 mg/dL
   100 mEq/L
   141 mEq/L
   21.7 %
   13.9 K/uL
        [image002.jpg]
                             [**2106-1-12**]  04:51 AM
                             [**2106-1-12**]  04:23 PM
                             [**2106-1-13**]  06:16 AM
                             [**2106-1-13**]  06:35 AM
                             [**2106-1-13**]  04:33 PM
                             [**2106-1-14**]  04:12 AM
                             [**2106-1-14**]  04:29 AM
                             [**2106-1-14**]  04:15 PM
                             [**2106-1-15**]  04:15 AM
                             [**2106-1-16**]  04:30 AM
   WBC
   10.1
   9.3
   11.6
   12.0
   12.0
   13.9
   Hct
   22.9
   23.8
   23.5
   23.4
   22.6
   21.7
   Plt
   382
   401
   368
   [**Telephone/Fax (3) 3102**]
   Cr
   0.6
   0.6
   0.7
   0.9
   0.6
   0.6
   0.7
   TCO2
   35
   40
   Glucose
   110
   106
   108
   108
   114
   99
   Other labs: PT / PTT / INR:12.9/62.4/1.1, CK / CKMB /
   Troponin-T:132/7/0.06, Differential-Neuts:83.1 %, Lymph:9.7 %, Mono:2.7
   %, Eos:4.2 %, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL, Ca++:8.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 PNEUMONIA, ASPIRATION
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   [**Age over 90 **] year-old female with recent ICU stay for likely aspiration pneumonia
   who presented on [**1-3**] unresponsive from her nursing home with fevers,
   respiratory distress, and a tension ptx s/p chest tube placement and
   intubation with development of subcutaneous emphysema on [**1-6**],
   successfully diuresed, now with improving overall respiratory and
   mental status.
   .
   #  Aspiration Pneumonia: no longer meets criteria for SIRS, overall
   improved although still with secretions. Micro - sputum [**1-14**] 2+ GPCs.
   -Stopped Vanc/Zosyn (began [**1-3**])
   - Trend WBC count fever curve
   - RSB
s in 80
s, will attempt to extubate today.
   - Per family last night, no decision yet on PEG, but
leaning toward
   PEG
   .
   # Respiratory Failure with tension PTX s/p right chest tube placement:
   Chest tube at waterseal and patient continues to do well. Tolerates
   CPAP w PS throughout the day and AC overnight for rest.
   - continue chest tube to water seal; follow-up thoracic recs.
   -achieving diuresis goals; may back of on diuresis goals today to 1-2L
   - maintain CVL until extubated
   .
   #. Subcutaneous Emphysema: Nearly resolved.
   - daily CXR
   - thoracics following
   - monitor
   .
   # Thrombocytopenia: Improved from prior, stable past couple of days.
   - monitor
   .
   # Paroxysmal A-fib: Converted back to sinus. Not anticoagulated.
   - continue amiodarone
   .
   # Dementia: Chronic, patient only AOx1 per previous reports, but
   unclear about her MS at the nursing home.
   - continue nemenda
   .
   # FEN: Tube feeds via OG, replete lytes PRN
   .
   # Access: R IJ, ART
   .
   # PPx: SQ heparin, boots, bowel regimen, H2 blocker
   .
   # Code:  Full code per OMR note
   .
   # Dispo:  ICU until extubated
   .
   # Comm:  HCP is [**Name2 (NI) 782**] [**Name (NI) **] [**Last Name (un) **] [**Telephone/Fax (1) 2139**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2106-1-15**] 07:04 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2106-1-12**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2106-01-16 11:49:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **] yo [**Hospital1 **] resident admitted with resp failure/PNA. Course complicated
   by line-associated  PTX
   24 Hour Events:
 ARTERIAL LINE - STOP [**2106-1-15**] 02:42 PM
                                History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2106-1-15**] 12:51 PM
   Famotidine (Pepcid) - [**2106-1-16**] 12:09 AM
   Heparin Sodium (Prophylaxis) - [**2106-1-16**] 08:17 AM
   Other medications:
   Amiodarone, calcium carbonate, vit D, pepcid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-1-16**] 11:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.5
   HR: 82 (71 - 85) bpm
   BP: 114/49(65) {79/37(47) - 128/56(73)} mmHg
   RR: 26 (14 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54 kg (admission): 47.9 kg
   Height: 62 Inch
             Total In:
                                                                  1,481 mL
                                                                    718 mL
   PO:
             TF:
                                                                    841 mL
                                                                    403 mL
   IVF:
                                                                    290 mL
                                                                    165 mL
   Blood products:
   Total out:
                                                                  1,193 mL
                                                                    265 mL
   Urine:
                                                                  1,193 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    288 mL
                                                                    453 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 254 (231 - 477) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 72
   PIP: 5 cmH2O
   Plateau: 19 cmH2O
   SpO2: 97%
   ABG: ///36/
   Ve: 6.1 L/min
   Physical Examination
   General Appearance: Well nourished, elderly
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Lungs: coarse BS bilaterally
   Extremities: No(t) Cyanosis, No(t) Clubbing; trace edema
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.4 g/dL
   437 K/uL
   99 mg/dL
   0.7 mg/dL
   36 mEq/L
   3.6 mEq/L
   17 mg/dL
   100 mEq/L
   141 mEq/L
   21.7 %
   13.9 K/uL
        [image002.jpg]
                             [**2106-1-12**]  04:51 AM
                             [**2106-1-12**]  04:23 PM
                             [**2106-1-13**]  06:16 AM
                             [**2106-1-13**]  06:35 AM
                             [**2106-1-13**]  04:33 PM
                             [**2106-1-14**]  04:12 AM
                             [**2106-1-14**]  04:29 AM
                             [**2106-1-14**]  04:15 PM
                             [**2106-1-15**]  04:15 AM
                             [**2106-1-16**]  04:30 AM
   WBC
   10.1
   9.3
   11.6
   12.0
   12.0
   13.9
   Hct
   22.9
   23.8
   23.5
   23.4
   22.6
   21.7
   Plt
   382
   401
   368
   [**Telephone/Fax (3) 3102**]
   Cr
   0.6
   0.6
   0.7
   0.9
   0.6
   0.6
   0.7
   TCO2
   35
   40
   Glucose
   110
   106
   108
   108
   114
   99
   Other labs: PT / PTT / INR:12.9/62.4/1.1, CK / CKMB /
   Troponin-T:132/7/0.06, Differential-Neuts:83.1 %, Lymph:9.7 %, Mono:2.7
   %, Eos:4.2 %, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL, Ca++:8.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 PNEUMONIA, ASPIRATION
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   [**Age over 90 **] year old female with PNA/sepsis and line-associated PTX
   Respiratory status and MS improving
   Add scopolamine patch to decrease oral secretions
   Attempt to extubate today
   Re-check CXR post-CT clamp
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2106-1-15**] 07:04 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2106-1-12**] 04:00 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2106-01-17 06:38:00 Physician Resident Progress Note
Chief Complaint: hypoxic respiratory failure
   24 Hour Events:
   - Spoke with family, pt is to be intubated if she has respiratory need
   - Extubated at 5pm and saturating well on facemask
   - [**2106-1-14**] 5:53 pm SPUTUM w/ pan sensitive KLEBSIELLA PNEUMONIAE.
   SPARSE GROWTH.   STAPH AUREUS COAG +.   w/ SPARSE GROWTH; restarted on
   vanco/levo for suspected VAP.
   - started on scopolomine for secretions
   - Chest Tube removed 1700
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-1-16**] 07:46 PM
   Levofloxacin - [**2106-1-16**] 10:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-1-16**] 10:30 PM
   Famotidine (Pepcid) - [**2106-1-16**] 11:59 PM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies pain, sob, f/c
   Flowsheet Data as of  [**2106-1-17**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.3
C (97.3
   HR: 73 (66 - 85) bpm
   BP: 120/52(68) {90/33(47) - 131/66(81)} mmHg
   RR: 24 (14 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54 kg (admission): 47.9 kg
   Height: 62 Inch
             Total In:
                                                                  1,273 mL
                                                                     66 mL
   PO:
             TF:
                                                                    433 mL
   IVF:
                                                                    640 mL
                                                                     66 mL
   Blood products:
   Total out:
                                                                    815 mL
                                                                    410 mL
   Urine:
                                                                    815 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    458 mL
                                                                   -344 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 284 (254 - 300) mL
   PS : 10 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 72
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 8.6 L/min
   Physical Examination
   GEN: NAD, sleeping, arouesable, extubated
   PULM: bilateraly crackles
 up, rhonchi RIGHT side
   CARD: Distint S1 S2. No MTR
   ABD: S/NT/ND
   EXT: 3+ Pitting Edema BL. No echy. No palp cords. 1+ pulses.
   Neuro: PERLA. Not speaking MS unable to be assessed.
   Labs / Radiology
   432 K/uL
   7.4 g/dL
   89 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.9 mEq/L
   13 mg/dL
   104 mEq/L
   140 mEq/L
   22.3 %
   11.0 K/uL
        [image002.jpg]
                             [**2106-1-12**]  04:23 PM
                             [**2106-1-13**]  06:16 AM
                             [**2106-1-13**]  06:35 AM
                             [**2106-1-13**]  04:33 PM
                             [**2106-1-14**]  04:12 AM
                             [**2106-1-14**]  04:29 AM
                             [**2106-1-14**]  04:15 PM
                             [**2106-1-15**]  04:15 AM
                             [**2106-1-16**]  04:30 AM
                             [**2106-1-17**]  03:54 AM
   WBC
   9.3
   11.6
   12.0
   12.0
   13.9
   11.0
   Hct
   23.8
   23.5
   23.4
   22.6
   21.7
   22.3
   Plt
   [**Telephone/Fax (3) 3121**]86
   437
   432
   Cr
   0.6
   0.7
   0.9
   0.6
   0.6
   0.7
   0.6
   TCO2
   35
   40
   Glucose
   106
   108
   108
   114
   99
   89
   Other labs: PT / PTT / INR:12.9/62.4/1.1, CK / CKMB /
   Troponin-T:132/7/0.06, Differential-Neuts:83.1 %, Lymph:9.7 %, Mono:2.7
   %, Eos:4.2 %, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL, Ca++:8.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   [**Age over 90 **] year-old female with recent ICU stay for likely aspiration pneumonia
   who presented on [**1-3**] unresponsive from her nursing home with fevers,
   respiratory distress, and a tension ptx s/p chest tube placement and
   intubation with development of subcutaneous emphysema on [**1-6**],
   successfully diuresed, now with improving overall respiratory and
   mental status. S/p extubation and CT removal [**1-16**]
   .
   #  Aspiration Pneumonia: S/p extubation but still has high Oxygen
   requrement. No longer meets criteria for SIRS, overall improved
   although still with secretions. Micro - sputum [**1-14**] growing Klebsiella
   and Staph Aureus Coag positive.  Restarted antibx (vanco/levo; had
   stopped Vanc/Zosyn (began [**1-3**]) earlier in the week)
   - Continue Vanco/Levo for planned 8 d. course (12/6
 [**1-24**]) for HAP
   with prior MRSA positivity
   - Trend WBC count fever curve
   - Supplemental oxygenation to maintain saturations in the mid 90s
   - S and S consult MONDAY. Hold off on feeds for now
   - Per family last night, no decision yet on PEG, but
leaning toward
   PEG
   .
   # Respiratory Failure with tension PTX s/p right chest tube placement:
   CT removed [**1-16**].
   - follow-up thoracic recs.
   -achieving diuresis goals goals today to 1-2L
   .
   #. Subcutaneous Emphysema: Nearly resolved.
   - daily CXR
   - thoracics following
   - monitor
   .
   # Thrombocytopenia: Improved from prior, stable past couple of days.
   - monitor
   .
   # Paroxysmal A-fib: Converted back to sinus. Not anticoagulated.
   - continue amiodarone when taking orals
   .
   # Dementia: Chronic, patient only AOx1 per previous reports, but
   unclear about her MS at the nursing home.
   - continue nemenda
   .
   # FEN: hold on TFs, replete lytes PRN, I/O goal -500 to 1 L diursesis
   .
   # Access: R IJ, ART
   .
   # PPx: SQ heparin, boots, bowel regimen, H2 blocker
   .
   # Code:  Full code per OMR note
   .
   # Dispo:  Consider Floor transfer today or tommorow
   .
   # Comm:  HCP is [**Name2 (NI) 782**] [**Name (NI) **] [**Last Name (un) **] [**Telephone/Fax (1) 2139**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2106-1-12**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2106-01-17 09:29:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **] yo female with PNA/sespsis with resp failure/hypotension, now
   recovering
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2106-1-16**] 04:51 PM
 CHEST TUBE REMOVED - At [**2106-1-16**] 05:01 PM
   *Extubated yesterday afternoon
   *Klebsiella/Staph grown out of sputum
   *Scopolamine patch added to decrease oral secretions
   *Chest tube removed
   History obtained from [**Hospital 19**] Medical records, ICU housestaff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2106-1-16**] 07:46 PM
   Levofloxacin - [**2106-1-16**] 10:30 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2106-1-16**] 11:59 PM
   Heparin Sodium (Prophylaxis) - [**2106-1-17**] 08:00 AM
   Other medications:
   colace, Amiodarone, SSI, Ca carbonate, Vitamin D
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-1-17**] 09:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98
   HR: 74 (66 - 85) bpm
   BP: 115/46(63) {90/33(47) - 131/66(81)} mmHg
   RR: 28 (14 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54 kg (admission): 47.9 kg
   Height: 62 Inch
             Total In:
                                                                  1,273 mL
                                                                     92 mL
   PO:
             TF:
                                                                    433 mL
   IVF:
                                                                    640 mL
                                                                     92 mL
   Blood products:
   Total out:
                                                                    815 mL
                                                                    510 mL
   Urine:
                                                                    815 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    458 mL
                                                                   -418 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 284 (259 - 300) mL
   PS : 10 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 8.6 L/min
   Physical Examination
   General Appearance: Well nourished, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: No(t) Cyanosis, No(t) Clubbing, boots bilaterally
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): self only, Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.4 g/dL
   432 K/uL
   89 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.9 mEq/L
   13 mg/dL
   104 mEq/L
   140 mEq/L
   22.3 %
   11.0 K/uL
        [image002.jpg]
                             [**2106-1-12**]  04:23 PM
                             [**2106-1-13**]  06:16 AM
                             [**2106-1-13**]  06:35 AM
                             [**2106-1-13**]  04:33 PM
                             [**2106-1-14**]  04:12 AM
                             [**2106-1-14**]  04:29 AM
                             [**2106-1-14**]  04:15 PM
                             [**2106-1-15**]  04:15 AM
                             [**2106-1-16**]  04:30 AM
                             [**2106-1-17**]  03:54 AM
   WBC
   9.3
   11.6
   12.0
   12.0
   13.9
   11.0
   Hct
   23.8
   23.5
   23.4
   22.6
   21.7
   22.3
   Plt
   [**Telephone/Fax (3) 3121**]86
   437
   432
   Cr
   0.6
   0.7
   0.9
   0.6
   0.6
   0.7
   0.6
   TCO2
   35
   40
   Glucose
   106
   108
   108
   114
   99
   89
   Other labs: PT / PTT / INR:12.9/62.4/1.1, CK / CKMB /
   Troponin-T:132/7/0.06, Differential-Neuts:83.1 %, Lymph:9.7 %, Mono:2.7
   %, Eos:4.2 %, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL, Ca++:8.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Imaging: CXR this am: limited views (head obscuring view)- CPA's still
   appear blunted, but no new pulm edema
   Microbiology: Sputum: Klebisiella, S.Aureus
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 PNEUMONIA, ASPIRATION
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   1/ Respiratory failure: Did well with extubation. continue abx/oxygen
   2. Aspiration PNA
   cultures yesterday + for Klebsiella and S.aureus ([**Last Name (un) 46**].pending).
   Vanc/Levaquin re-started given rising WBC trend over past few days
   3. Line associated PTX: no signs of reucrrence after CT dc'd- continue
   monitoring
   4. Afib: hold amiodarone today due to aspiration risk, will re-assess
   after speech/swallow eval
   5. FEN: NPO until seen by speech/swallow
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2106-1-12**] 04:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU, potentially to floor later
   Total time spent: 30 minutes

2106-01-18 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Patient extubated 5pm on Saturday
   - I/O - -1.4 L @ 1900 with no lasix
   - Family updated - Aware pt may be transferred to the floor
   - Continues to sat. in mid to high 90s on 0.4 FiO2 facemask
   - S and S tommorow
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2106-1-16**] 10:30 PM
   Vancomycin - [**2106-1-17**] 07:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-1-17**] 10:00 PM
   Famotidine (Pepcid) - [**2106-1-18**] 04:03 AM
   Other medications:
   Changes to medical and family history: No changes to medical and family
   history.
   Review of systems is unchanged from admission except as noted below
   Review of systems: No changes to review of systems.
   Flowsheet Data as of  [**2106-1-18**] 06:52 AM
   Vital signs
   Micro
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.8
   HR: 76 (69 - 88) bpm
   BP: 124/49(68) {111/44(60) - 142/65(82)} mmHg
   RR: 24 (20 - 29) insp/min
   SpO2: 97% on 35% tent mask
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54 kg (admission): 47.9 kg
   Height: 62 Inch
    Klebsiella & staph aureus(MRSA)  grew from sputum Cx on [**1-14**]. On vanco
   & levofloxacin IV for MRSA & klebsiella in sputum
   Total In:
                                                                    455 mL
                                                                    119 mL
   PO:
   TF:
   IVF:
                                                                    455 mL
                                                                    119 mL
   Blood products:
   Total out:
                                                                  1,620 mL
                                                                    320 mL
   Urine:
                                                                  1,620 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,165 mL
                                                                   -201 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   GEN: NAD, sleeping, arouesable, extubated
   PULM: bilateraly crackles
 up, rhonchi RIGHT side
   CARD: Distint S1 S2. No MTR
   ABD: S/NT/ND
   EXT: 3+ Pitting Edema BL. No echy. No palp cords. 1+ pulses.
   Neuro: PERLA. Not speaking MS unable to be assessed.
   Labs / Radiology
   446 K/uL
   7.8 g/dL
   80 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.8 mEq/L
   11 mg/dL
   102 mEq/L
   139 mEq/L
   24.1 %
   8.4 K/uL
        [image002.jpg]
                             [**2106-1-13**]  06:16 AM
                             [**2106-1-13**]  06:35 AM
                             [**2106-1-13**]  04:33 PM
                             [**2106-1-14**]  04:12 AM
                             [**2106-1-14**]  04:29 AM
                             [**2106-1-14**]  04:15 PM
                             [**2106-1-15**]  04:15 AM
                             [**2106-1-16**]  04:30 AM
                             [**2106-1-17**]  03:54 AM
                             [**2106-1-18**]  04:18 AM
   WBC
   9.3
   11.6
   12.0
   12.0
   13.9
   11.0
   8.4
   Hct
   23.8
   23.5
   23.4
   22.6
   21.7
   22.3
   24.1
   Plt
   [**Telephone/Fax (3) 3121**]86
   437
   432
   446
   Cr
   0.7
   0.9
   0.6
   0.6
   0.7
   0.6
   0.5
   TCO2
   35
   40
   Glucose
   106
   108
   108
   114
   99
   89
   80
   Other labs: PT / PTT / INR:12.9/62.4/1.1, CK / CKMB /
   Troponin-T:132/7/0.06, Differential-Neuts:83.1 %, Lymph:9.7 %, Mono:2.7
   %, Eos:4.2 %, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL, Ca++:8.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 PNEUMONIA, ASPIRATION
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   [**Age over 90 **] year-old female with recent ICU stay for likely aspiration pneumonia
   who presented on [**1-3**] unresponsive from her nursing home with fevers,
   respiratory distress, and a tension ptx s/p chest tube placement and
   intubation with development of subcutaneous emphysema on [**1-6**],
   successfully diuresed, now with improving overall respiratory and
   mental status. S/p extubation and CT removal [**1-16**]. Started on Levo and
   Vanco for Klebsiella and MRSA from [**1-14**] sputum culture.
   .
   #  Aspiration Pneumonia: S/p extubation. On 35% tent mask. No longer
   meets criteria for SIRS, overall improved although still with
   secretions. Micro - sputum [**1-14**] growing Klebsiella and Staph Aureus
   Coag positive.  Restarted antibx (vanco/levo; had stopped Vanc/Zosyn
   (began [**1-3**]) earlier in the week)
   - Continue Vanco/Levo for planned 8 d. course (12/6
 [**1-24**]) for HAP
   with prior MRSA positivity
   - Trend WBC count fever curve
   - Supplemental oxygenation to maintain saturations in the mid 90s
   - S and S consult MONDAY. Hold off on feeds for now
   .
   # Respiratory Failure with tension PTX s/p right chest tube placement:
   CT removed [**1-16**].
   - follow-up thoracic recs.
   -achieving diuresis goals goals today to 1-2L by outodiuresis
   .
   #. Subcutaneous Emphysema: Nearly resolved.
   - daily CXR
   - thoracics following
   - monitor
   .
   # Thrombocytopenia: Improved from prior, stable past couple of days.
   - monitor
   .
   # Paroxysmal A-fib: Converted back to sinus. Not anticoagulated.
   - continue amiodarone when taking orals
   .
   # Dementia: Chronic, patient only AOx1 per previous reports, but
   unclear about her MS at the nursing home.
   - continue nemenda
   .
   # FEN: hold on TFs, replete lytes PRN, I/O goal -500 to 1 L diursesis
   .
   # Access: R IJ, ART
   .
   # PPx: SQ heparin, boots, bowel regimen, H2 blocker
   .
   # Code:  Full code per OMR note
   .
   # Dispo:  Floor transfer likely today.
   .
   # Comm:  HCP is [**Name2 (NI) 782**] [**Name (NI) **] [**Last Name (un) **] [**Telephone/Fax (1) 2139**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2106-1-12**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2106-01-18 12:06:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, pneumothorax, penumonia, anemia
   HPI:
   Patient doing well post extubation. Hemodynamically stable.
   Diuresing on her own in the past 24 hours.
   Afebrile
   24 Hour Events:
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2106-1-16**] 10:30 PM
   Vancomycin - [**2106-1-17**] 07:30 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2106-1-18**] 04:03 AM
   Heparin Sodium (Prophylaxis) - [**2106-1-18**] 08:10 AM
   Other medications:
   colace, amiodarone, insulin, calcium carbonate, vitamin D
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-1-18**] 12:05 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 77 (69 - 88) bpm
   BP: 128/78(92) {107/43(59) - 142/78(92)} mmHg
   RR: 17 (17 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54 kg (admission): 47.9 kg
   Height: 62 Inch
             Total In:
                                                                    455 mL
                                                                    169 mL
   PO:
             TF:
   IVF:
                                                                    455 mL
                                                                    169 mL
   Blood products:
   Total out:
                                                                  1,620 mL
                                                                    535 mL
   Urine:
                                                                  1,620 mL
                                                                    535 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,165 mL
                                                                   -367 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube, Kyphosis
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), III/VI holosystolic murmur throughout precordium, loudest
   at apex.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Crackles : Scattered rales)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace edema, Left: Trace, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   7.8 g/dL
   446 K/uL
   80 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.8 mEq/L
   11 mg/dL
   102 mEq/L
   139 mEq/L
   24.1 %
   8.4 K/uL
        [image002.jpg]
                             [**2106-1-13**]  06:16 AM
                             [**2106-1-13**]  06:35 AM
                             [**2106-1-13**]  04:33 PM
                             [**2106-1-14**]  04:12 AM
                             [**2106-1-14**]  04:29 AM
                             [**2106-1-14**]  04:15 PM
                             [**2106-1-15**]  04:15 AM
                             [**2106-1-16**]  04:30 AM
                             [**2106-1-17**]  03:54 AM
                             [**2106-1-18**]  04:18 AM
   WBC
   9.3
   11.6
   12.0
   12.0
   13.9
   11.0
   8.4
   Hct
   23.8
   23.5
   23.4
   22.6
   21.7
   22.3
   24.1
   Plt
   [**Telephone/Fax (3) 3121**]86
   437
   432
   446
   Cr
   0.7
   0.9
   0.6
   0.6
   0.7
   0.6
   0.5
   TCO2
   35
   40
   Glucose
   106
   108
   108
   114
   99
   89
   80
   Other labs: PT / PTT / INR:12.9/62.4/1.1, CK / CKMB /
   Troponin-T:132/7/0.06, Differential-Neuts:83.1 %, Lymph:9.7 %, Mono:2.7
   %, Eos:4.2 %, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL, Ca++:8.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Imaging: CXR: difficult to interpret because of position of head.
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 PNEUMONIA, ASPIRATION
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   ANEMIA
   Patient doing well off ventilator. O2 sats in mid-90's off supplemental
   oxygen this AM. Maintain negative fluid balance of 0.5 to 1.0 Liters
   today. Completing antibiotics for presumed aspiratoin pneumonia.
   Has been hemodynamically stable.  Urine output normal, renal function
   normal.
   Corrected calcium elevated today. Hold supplemental calcium.
   ICU Care
   Nutrition: Pending speech and swallow
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2106-1-12**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes